2120-04-18 07:23:00 Physician Resident Progress Note
Chief Complaint: 50M h/o metastatic renal CA s/p nephrectomy, IL-2,
   mini-allograft SCT, DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis
   on home 02 presents with sepsis.
   24 Hour Events:
   -Multiple family discussions, pt FULL CODE
   -Paralysis stopped
   -Started on Dobutamine infusion, MAP maintained at >65 after
   vasopressin stopped.  Now off levophed
   -PEEP decreased to 14 from 16, Fi02 50% from 60%
   -UOP maintained >200cc/hr
   -TF held for high residuals.  No BM.
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2120-4-17**] 10:04 AM
   Vancomycin - [**2120-4-17**] 07:35 PM
   Bactrim (SMX/TMP) - [**2120-4-17**] 11:39 PM
   Acyclovir - [**2120-4-18**] 12:16 AM
   [**Year (4 digits) 2219**] - [**2120-4-18**] 03:59 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-18**] 06:08 AM
   Infusions:
   Dobutamine - 1.5 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 400 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-4-17**] 07:41 PM
   Famotidine (Pepcid) - [**2120-4-17**] 08:30 PM
   Other medications:
   Hydrocortisone 50mg IV Q6
   Acetaminophen prn
   Folic Acid
   Albuterol
   Asa
   ISS
   Docusate
   Senna
   Bisacodyl
   Chlorhexidine
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Intubated, sedated
   Flowsheet Data as of  [**2120-4-18**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 67 (56 - 96) bpm
   BP: 117/60(76) {89/58(69) - 152/77(99)} mmHg
   RR: 34 (30 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
    CVP: 17 (10 - 25)mmHg
   CO/CI (CCO): (4.7 L/min) / (2.5 L/min/m2)
   Total In:
                                                                  6,194 mL
                                                                    820 mL
   PO:
   TF:
                                                                    890 mL
                                                                     46 mL
   IVF:
                                                                  4,814 mL
                                                                    739 mL
   Blood products:
   Total out:
                                                                  2,395 mL
                                                                  2,690 mL
   Urine:
                                                                  1,845 mL
                                                                  2,580 mL
   NG:
                                                                    550 mL
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                  3,799 mL
                                                                 -1,870 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   PC : 24 cmH2O
   RR (Set): 34
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 36 cmH2O
   SpO2: 96%
   ABG: 7.36/39/95.[**Numeric Identifier 96**]/21/-2
   Ve: 15.9 L/min
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: sclera anicteric, conjunctiva non-injected, PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, esophageal
   balloon, NGT
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal, Fixed), tachycardic. regular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   : Present), (Right DP pulse: : Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ), coarse mechanical BS throughout all lung fields
   Abdominal: Soft, Non-tender, hypoactive bowel sounds
   Extremities: no edema, palpable distal pulses
   Skin:  Warm and dry, evidence of cutaneous GVHD on abdomen with
   sclerodermal changes.
   Neurologic: Intubated, sedated, opens eyes, tracks around room.
   Labs / Radiology
   124 K/uL
   11.3 g/dL
   99 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.6 mEq/L
   19 mg/dL
   110 mEq/L
   139 mEq/L
   33.6 %
   12.3 K/uL
        [image002.jpg]
                             [**2120-4-16**]  06:59 PM
                             [**2120-4-16**]  09:54 PM
                             [**2120-4-16**]  11:52 PM
                             [**2120-4-17**]  04:37 AM
                             [**2120-4-17**]  04:52 AM
                             [**2120-4-17**]  08:05 PM
                             [**2120-4-17**]  10:19 PM
                             [**2120-4-18**]  12:20 AM
                             [**2120-4-18**]  04:38 AM
                             [**2120-4-18**]  05:01 AM
   WBC
   13.1
   12.3
   Hct
   35.4
   33.6
   Plt
   119
   124
   Cr
   1.1
   1.1
   TropT
   0.22
   TCO2
   23
   21
   21
   20
   21
   22
   22
   23
   Glucose
   164
   179
   174
   99
   Other labs: PT / PTT / INR:14.9/28.9/1.3, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:94/64, Alk Phos / T Bili:84/0.3,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.7 g/dL, LDH:274 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:1.6
   mg/dL
   Micro:
   Urine legionella ag: Negative
   Blood and urine cx pending
   Assessment and Plan
   50M h/o metastatic renal CA s/p nephrectomy, IL-2, mini-allograft SCT,
   DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis on home 02
   presented to OSH with hypoxic respiratory failure, fevers and
   hypotension.
   # Severe septic shock: On presentation to OSH pt hypotensive, hypoxic
   with fevers and leukocytosis. On arrival to [**Hospital1 54**] ICU was intubated due
   to hypoxic respiratory failure and hypotensive requiring pressors.
   Likely pneumonia given hypoxia and possible opacities on CXR, although
   difficult to read due to fibrosis. No other apparent localizing
   symptoms. Ruled-out for flu at OSH. Urine, GI sources less probable.
   Given immunocompromise from malignancy, at risk for PCP, [**Name10 (NameIs) 1156**], etc.
   Progression of GVHD could be contributing.
   - Will attempt to obtain deep ET sputum for culture
   - legionella urine ag negative, all other cultures no growth to date.
   - Vanc, zosyn, levofloxacin, bactrim IV for PCP, [**Name10 (NameIs) **] to cover
   broadly for now given critical illness.  Iv steroids for PCP and
   adrenal insufficiency as below.
   - glucan, galactomannan  pending for ? PCP, [**Name10 (NameIs) 2263**]
   [**Name Initial (NameIs) **] Unclear benefit of bronch for BAL at this point given duration of
   antimicrobial treatment and pt
s tenuous respiratory status, albeit
   improved from yesterday.
   - CT chest and possible bronch when more stable
   - Follow WBC count, fever curve, decreasing
   - PPD negative
   # Respiratory failure: Pneumonia in patient with poor pulmonary reserve
   due to emphysema, ?GVHD, fibrosis.
   Pt tolerated decrease in PEEP and Fi02 yesterday.  Attempted to switch
   to A/C today, however pt less sedated off pressors and pulling large TV
   (~1600), dysynchronous with vent.
   -Switch back to pressure control for now, titrating down PEEP and Fi02
   as tolerated, attempt to wean sedation as much as possible.
   -Off cisatracurium since yesterday am.  Currently sedated on midazolam
   and fentanyl.
   # Hypotension: Likely a mixed picture. Initially pt
s presentation of
   acute hypoxia with leukocytosis and fevers with hypotension made a
   septic shock picture predominate, however after adequate fluid
   rescusitation pt continued to require 2 pressors.  His TTE and vigileo
   monitoring were consistent with  low cardiac output due to pt
s severe
   pulmonary hypertension due to pulmonary fibrosis and subsequent RV
   hypokinesis with resultant LVOT, a non-fluid responsive state.
   Dobutamin challenge yesterday resulted in increased CO to normal range
   with ability to be weaned off both levophed and vasopressin. UOP
   remains high at ~200cc/hour.
   - Continue dobutamine
   - No prostacyclin/NO for now due to concern that may increase mismatch
   and worsen hypoxia.
   - Continue HD monitoring with Vigileo device
   - Treat broadly for infection per above
   - IV hydrocort Q6 for  adrenal insufficiency, continue
   - Initially concerned for PE, however have more likley explanations for
   hypotension as listed above, LENIs negative
   - Start ACE low dose/short acting for afterload reduction.
   - Guaiac stools, HCT has been stable.
   # Cardiac: Patient with probable demand ischemia in setting of
   hypotension, tachycardia, and sepsis; less likely unstable plaque.
   - CE
s trending down,  have stopped following.
   - ASA
   - ACEI as above for afterload reduction
   - Consider diuresis if UOP tapers off to further decrease preload.
   # Metastatic renal CA: Recurrent disease s/p donor lymphocyte
   transplant [**12-8**].
   - BMT to follow
   - Continue acyclovir ppx for now, will discuss with BMT
   ICU Care
   ICU Care
   Nutrition: TF not at goal due to high residuals, will reduce fentanyl,
   colace/senna, consider lactulose/oral naloxone if ileus persists. TPN
   for now.
   Glycemic Control:  ISS prn
   Lines:
   20 Gauge - [**2120-4-15**] 09:10 PM
   Multi Lumen - [**2120-4-15**] 11:24 PM
   Arterial Line - [**2120-4-16**] 12:14 AM
   Prophylaxis:
   DVT: Hep SC, pneumoboots
   Stress ulcer:  Ranitidine
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments: wife, [**Name (NI) 1288**] [**Name (NI) 2174**]
   Code status: Full code, have d/w family.
   Disposition: ICU

2120-04-19 05:28:00 Physician Resident Progress Note
Chief Complaint:  50M h/o metastatic renal CA s/p nephrectomy, IL-2,
   mini-allograft SCT, DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis
   on home 02 presents with hypotension, fevers, hypoxemic respiratory
   failure.
   24 Hour Events:
   -dysynchronous on vent after rounds when on SIMV, put back on pressure
   control with normalization of ABG.  Did well for most of the day.
   Overnight had mucous plugging with suctioning of sm amount thick
   sputum, after which pt transiently became dyscynchronous requiring
   increased sedation.  PEEP increased to 12 from 10, Fi02 increased from
   40% to 50%, driving pressure increased from 13 to 16, although down
   from 24 yesterday am.
   -decreased SVR, increased CO/CI after initiating ACEI, trial of
   decreasing dobutamine.
   -great UOP 100-200 cc/hour, no lasix for now
   -KUB read, no SBO
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2120-4-18**] 10:14 AM
   Acyclovir - [**2120-4-18**] 04:30 PM
   Vancomycin - [**2120-4-18**] 08:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-18**] 10:13 PM
   Bactrim (SMX/TMP) - [**2120-4-19**] 12:02 AM
   [**Year (4 digits) 2219**] - [**2120-4-19**] 03:58 AM
   Infusions:
   Dobutamine - 1 mcg/Kg/min
   Midazolam (Versed) - 12 mg/hour
   Fentanyl - 500 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-4-18**] 07:43 PM
   Heparin Sodium (Prophylaxis) - [**2120-4-18**] 09:00 PM
   Other medications:
   ISS
   ASA 325mg daily
   Docusate
   Chlorhexidine
   Folic Acid
   Hydrocortisone 50mg IV Q6
   Captopril 6.25 Po TID
   Senna
   PRN:
   Albuterol
   Bisacodyl
   Acetaminophen
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unchanged, intubated and deeply sedated
   Flowsheet Data as of  [**2120-4-19**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.6
   HR: 74 (54 - 101) bpm
   BP: 142/70(92) {117/57(76) - 155/75(98)} mmHg
   RR: 34 (30 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
    CVP: 18 (15 - 41)mmHg
   CO/CI (CCO): (5.7 L/min) / (3.0 L/min/m2)
   SVV 12%
   SVR: 926
   Total In:
                                                                  4,090 mL
                                                                  1,462 mL
   PO:
   TF:
                                                                    163 mL
   IVF:
                                                                  3,555 mL
                                                                  1,104 mL
   Blood products:
   Total out:
                                                                  6,200 mL
                                                                    820 mL
   Urine:
                                                                  6,090 mL
                                                                    820 mL
   NG:
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,110 mL
                                                                    642 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 260 (260 - 260) mL
   PC : 16 cmH2O
   PS : 5 cmH2O
   RR (Set): 34
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 39 cmH2O
   Plateau: 30 cmH2O
   SpO2: 96%
   ABG: 7.39/40/113//0
   Ve: 15.4 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: sclera anicteric, conjunctiva non-injected, PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, esophageal
   balloon, NGT
   Cardiovascular: (S1: Normal), (S2: Normal, Fixed), tachycardic. regular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   : Present), (Right DP pulse: : Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ), coarse mechanical BS throughout all lung fields
   Abdominal: Soft, Non-tender, hypoactive bowel sounds
   Extremities: no edema, palpable distal pulses
   Skin:  Warm and dry, evidence of cutaneous GVHD on abdomen with
   sclerodermal changes.
   Labs / Radiology
   130 K/uL
   98 mg/dL
   1.0
   24 mEq/L
   4.2 mEq/L
   22 mg/dL
   113 mEq/L
   145 mEq/L
   31.8
   13.5 K/uL
        [image002.jpg]
   Micro:
   Bcx x2 NGTD
   Ucx: No growth
   CXR [**2120-4-18**]:  New area of heterogeneous coalescing opacification in the
   RLL partially obscuring R hemidiaphragm, concerning for aspiration or
   evolving infection.  Persistent R pleural effusion. Feeding tube tip
   terminates just above the level of the diaphragm and could be advanced
                             [**2120-4-18**]  12:20 AM
                             [**2120-4-18**]  04:38 AM
                             [**2120-4-18**]  05:01 AM
                             [**2120-4-18**]  11:22 AM
                             [**2120-4-18**]  12:10 PM
                             [**2120-4-18**]  02:14 PM
                             [**2120-4-18**]  08:25 PM
                             [**2120-4-18**]  10:25 PM
                             [**2120-4-19**]  03:04 AM
                             [**2120-4-19**]  04:46 AM
   WBC
   12.3
   Hct
   33.6
   Plt
   124
   Cr
   1.1
   TCO2
   22
   23
   23
   23
   22
   23
   24
   26
   25
   Glucose
   99
   Other labs: PT / PTT / INR:14.5/28.7/1.3, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:94/64, Alk Phos / T Bili:84/0.3,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.7 g/dL, LDH:274 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   50M h/o metastatic renal CA s/p nephrectomy, IL-2, mini-allograft SCT,
   DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis on home 02
   presented to OSH with hypoxic respiratory failure, fevers and
   hypotension.
   # Septic shock: On presentation to OSH pt hypotensive, hypoxic with
   fevers and leukocytosis. On arrival to [**Hospital1 54**] ICU was intubated due to
   hypoxic respiratory failure and hypotensive requiring pressors.  Likely
   pneumonia given hypoxia and possible opacities on CXR, although
   difficult to read due to fibrosis. No other apparent localizing
   symptoms. Ruled-out for flu at OSH.  At this point, WBC and fever curve
   decreasing. Covered on broad spectrum antibiotics.
   - Legionella urine ag negative, all other cultures no growth to date.
   - Vanc, zosyn, levofloxacin, bactrim IV for PCP, [**Name10 (NameIs) **] to cover
   broadly given critical illness.  As patient was on bactrim prophylaxis
   for PCP as outpatient and not on steroids, risk for PCP very low;
   therefore, will dc high dose bactrim and restart ppx dose.
   - D/C [**Name10 (NameIs) **]
   - Also on IV steroids for PCP and adrenal insufficiency, see below
   - Glucan, galactomannan  pending
   - Follow WBC count, fever curve, decreasing
   - PPD negative
   - Continue acyclovir ppx, vanc/zosyn/levoflox
   # Respiratory failure: Pneumonia in patient with poor pulmonary reserve
   due to emphysema, ?GVHD, fibrosis.
   Pt tolerated decrease in PEEP and Fi02 yesterday.  Attempted to switch
   to A/C, however pt less sedated off pressors and pulling large TV
   (~1600), dysynchronous with vent.
   - Back on pressure control for now, based on transpulmonary pressure
   (10 and -2), will titrate down FiO2 as tolerated today.   Can consider
   changing to PSV or SIMV with low set respiratory rate if tolerated.
   -Off cisatracurium since [**4-17**].  Currently sedated on midazolam and
   fentanyl on maximal doses.  Will try trial of methadone to help
   decrease versed/fentanyl doses today. Attempt wean as tolerated. Can
   consider propofol in addition in order to lower doses of
   versed/fentanyl.
   # Cardiogenic shock: Patient found to have PAH and RV failure on ECHO.
   Started on dobutamine with improvement in CI as well as pressures.
   Also started on captopril for afterload reduction which enabled
   decrease in dobutamine with continued improvement in hemodynamics.
   - Wean dobutamine today
   - Continue to monitor UOP and CI. If UOP decreases, will consider lasix
   drip if patient becomes very positive
   # Hypotension: Improved. Likely a mixed picture. Initially pt
   presentation of acute hypoxia with leukocytosis and fevers with
   hypotension made a septic shock picture predominate, however after
   adequate fluid rescusitation pt continued to require 2 pressors.  His
   TTE and vigileo monitoring were consistent with low cardiac output due
   to pt
s severe pulmonary hypertension due to pulmonary fibrosis and
   subsequent RV hypokinesis, a non-fluid responsive state.  Dobutamine
   challenge resulted in increased CO to normal range with ability to be
   weaned off both levophed and vasopressin and addition of captopril
   which led to decreased afterload allowed decrease in dobutamine.  Also,
   initial concern for adrenal insufficiency as patient has one adrenal
   gland with a metastasis, though he does not clinically appear to be
   functionally adrenally insufficient at this point.  UOP remains high at
   ~100-200cc/hour.
   - Continue dobutamine
   - Continue HD monitoring with Vigileo device
   - Treat broadly for infection per above
   - IV hydrocort Q6 for adrenal insufficiency, will start wean today with
   50mg q12, and subsequent wean over next few days.
   - Initially concerned for PE, however have more likley explanations for
   hypotension as listed above, LENIs negative
   - Guaiac stools, HCT has been stable.
   # Cardiac: Patient with probable demand ischemia in setting of
   hypotension, tachycardia, and sepsis; less likely unstable plaque.
   - CE
s trended down,  have stopped following.
   - ASA
   - ACEI as above for afterload reduction
   - Consider diuresis if UOP tapers off to further decrease preload.
   # Metastatic renal CA: Recurrent disease s/p donor lymphocyte
   transplant [**12-8**].
   - BMT to follow
   - Continue acyclovir ppx for now, will discuss with BMT
   ICU Care
   Nutrition: TF not at goal due to high residuals, will reduce fentanyl,
   colace/senna, consider lactulose/oral naloxone if ileus persists. TPN
   for now.
   Glycemic Control:  ISS prn
   Lines:
   20 Gauge - [**2120-4-15**] 09:10 PM
   Multi Lumen - [**2120-4-15**] 11:24 PM
   Arterial Line - [**2120-4-16**] 12:14 AM
   Prophylaxis:
   DVT: Hep SC, pneumoboots
   Stress ulcer:  Ranitidine
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments: wife, [**Name (NI) 1288**] [**Name (NI) 2174**]
   Code status: Full code, have d/w family.
   Disposition: ICU

2120-04-20 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [** **] + bactrim d/c
   Beta glucan and galactomannan pending
   But
 BMT wanted to gold onto [**Last Name (LF) **], [**First Name3 (LF) **] will d/c sun if still no
   positive fungal cultures by then
   Hydrocortisone weaned to 50mg iv bid from qid
   Dobutamine weaned off, but C.I. dropped to 2.8 (from 3.5), so restarted
   overnight
   IV methadone started to wean fent / midaz; ECG without QTc prolongation
   Did NOT start propofol gtts (not close to extubation)
   FiO2 increased to 50% (from 40%) after sats fell (paO2 78 @ 9pm)
   Bradycardic overnight in 50
 increase to 90s w/ stimulation (bathing)
   Lactulose added to bowel regimen -> had bowel movement this morning per
   nursing
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2120-4-18**] 04:30 PM
   Bactrim (SMX/TMP) - [**2120-4-19**] 09:00 AM
   Levofloxacin - [**2120-4-19**] 10:30 AM
   Vancomycin - [**2120-4-19**] 08:00 PM
   [**Year (4 digits) 2219**] - [**2120-4-19**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-19**] 10:00 PM
   Infusions:
   Dobutamine - 0.3 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-4-19**] 08:14 PM
   Heparin Sodium (Prophylaxis) - [**2120-4-19**] 08:15 PM
   Other medications:
   Lactulose / docusate / bisacodyl
   Captopril
   Tylenol prn
   Folic acid
   Albuterol
   Asa
   chlorhexidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-20**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 52 (47 - 91) bpm
   BP: 119/51(71) {110/42(61) - 148/65(90)} mmHg
   RR: 34 (28 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
    CVP: 7 (6 - 17)mmHg
   CO/CI (CCO): (5.1 L/min) / (2.7 L/min/m2)
   Total In:
                                                                  5,654 mL
                                                                    590 mL
   PO:
   TF:
                                                                     59 mL
   IVF:
                                                                  4,015 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                  3,280 mL
                                                                    585 mL
   Urine:
                                                                  3,280 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,374 mL
                                                                      5 mL
   Respiratory support
   Ventilator mode: PCV+
   PC : 28 cmH2O
   RR (Set): 24
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 34 cmH2O
   SpO2: 93%
   ABG: 7.46/36/87.[**Numeric Identifier 244**]/24/1
   Ve: 16.9 L/min
   PaO2 / FiO2: 176
   Physical Examination
   Gen:
   Labs / Radiology
   136 K/uL
   10.4 g/dL
   91 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.0 mEq/L
   26 mg/dL
   112 mEq/L
   145 mEq/L
   31.7 %
   10.2 K/uL
        [image002.jpg]
                             [**2120-4-18**]  12:10 PM
                             [**2120-4-18**]  02:14 PM
                             [**2120-4-18**]  08:25 PM
                             [**2120-4-18**]  10:25 PM
                             [**2120-4-19**]  03:04 AM
                             [**2120-4-19**]  04:30 AM
                             [**2120-4-19**]  04:46 AM
                             [**2120-4-19**]  04:59 PM
                             [**2120-4-20**]  03:12 AM
                             [**2120-4-20**]  06:06 AM
   WBC
   13.5
   10.2
   Hct
   31.8
   31.7
   Plt
   130
   136
   Cr
   1.0
   1.1
   TCO2
   23
   22
   23
   24
   26
   25
   26
   26
   Glucose
   98
   91
   Other labs: PT / PTT / INR:14.6/29.1/1.3, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:57/31, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.7 g/dL, LDH:272 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.8
   mg/dL
   Micro
   Bl cx 4/14+[**4-16**] pending
   Negative legionella
   Rads
   Cxr [**4-19**]
   SINGLE SEMI-UPRIGHT VIEW OF THE CHEST AT APPROXIMATELY 7 a.m.: This
   exam is
   largely unchanged from the prior exam. Endotracheal tube, nasogastric
   tube,
   feeding tube, and right internal jugular catheter are all in unchanged
   positions. Again, the feeding tube terminates above the GE junction.
   Lung volumes remain low and widespread interstitial thickening is
   consistent
   with diffuse fibrosis. A slight relative increase in air space opacity
   at the
   right lung base (most evident when in comparison to the scout film from
   the CT
   torso of [**2120-2-13**]) is largely unchanged, as is a small right pleural
   effusion.
   Assessment and Plan
   50M h/o metastatic renal CA s/p nephrectomy, IL-2, mini-allograft SCT,
   DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis on home 02
   presented to OSH with hypoxic respiratory failure, fevers and
   hypotension.
   # Respiratory failure:
   Pneumonia as likely source of resp failure and sepsis in patient with
   poor pulmonary reserve due to emphysema, ?GVHD, fibrosis.
   Pt was dysynchronous w/ vent yesterday w/ decreasing sedation of fent /
   midazolam although methadone was added; oxygenation seems to worsen
   when patient is dysynchronous / less sedated.
   Sats decreased overnight.
   Pt tolerated decrease in PEEP and Fi02 yesterday.  Attempted to switch
   to A/C, however pt less sedated off pressors and pulling large TV
   (~1600), dysynchronous with vent.
   - Back on pressure control for now, based on transpulmonary pressure
   (10 and -2), will titrate down FiO2 as tolerated today.   Can consider
   changing to PSV or SIMV with low set respiratory rate if tolerated.
   -Off cisatracurium since [**4-17**].  Currently sedated on midazolam and
   fentanyl on maximal doses.  Will try trial of methadone to help
   decrease versed/fentanyl doses today. Attempt wean as tolerated. Can
   consider propofol in addition in order to lower doses of
   versed/fentanyl.
   # Septic shock: On presentation to OSH pt hypotensive, hypoxic with
   fevers and leukocytosis. On arrival to [**Hospital1 54**] ICU was intubated due to
   hypoxic respiratory failure and hypotensive requiring pressors.  Likely
   pneumonia given hypoxia and possible opacities on CXR, although
   difficult to read due to fibrosis. No other apparent localizing
   symptoms. Ruled-out for flu at OSH.  At this point, WBC and fever curve
   decreasing. Covered on broad spectrum antibiotics.
   - Legionella urine ag negative, all other cultures no growth to date.
   - Vanc, zosyn, levofloxacin, bactrim IV for PCP, [**Name10 (NameIs) **] to cover
   broadly given critical illness.  As patient was on bactrim prophylaxis
   for PCP as outpatient and not on steroids, risk for PCP very low;
   therefore, will dc high dose bactrim and restart ppx dose.
   - D/C [**Name10 (NameIs) **] sun if cultures negative
   - Also on IV steroids for PCP and adrenal insufficiency, see below
   - Glucan, galactomannan  pending
   - Follow WBC count, fever curve, decreasing
   - PPD negative
   - Continue acyclovir ppx, vanc/zosyn/levoflox
   # Cardiogenic shock: Patient found to have PAH and RV failure on ECHO.
   Started on dobutamine with improvement in CI as well as pressures.
   Also started on captopril for afterload reduction which enabled
   decrease in dobutamine with continued improvement in hemodynamics.
   - Wean dobutamine today
   - Continue to monitor UOP and CI. If UOP decreases, will consider lasix
   drip if patient becomes very positive
   # Cardiac: Patient with probable demand ischemia in setting of
   hypotension, tachycardia, and sepsis; less likely unstable plaque.
   - CE
s trended down,  have stopped following.
   - ASA
   - ACEI as above for afterload reduction
   - Consider diuresis if UOP tapers off to further decrease preload.
   # Hypotension: Improved. Likely a mixed picture. Initially pt
   presentation of acute hypoxia with leukocytosis and fevers with
   hypotension made a septic shock picture predominate, however after
   adequate fluid rescusitation pt continued to require 2 pressors.  His
   TTE and vigileo monitoring were consistent with low cardiac output due
   to pt
s severe pulmonary hypertension due to pulmonary fibrosis and
   subsequent RV hypokinesis, a non-fluid responsive state.  Dobutamine
   challenge resulted in increased CO to normal range with ability to be
   weaned off both levophed and vasopressin and addition of captopril
   which led to decreased afterload allowed decrease in dobutamine.  Also,
   initial concern for adrenal insufficiency as patient has one adrenal
   gland with a metastasis, though he does not clinically appear to be
   functionally adrenally insufficient at this point.  UOP remains high at
   ~100-200cc/hour.
   - Continue dobutamine
   - Continue HD monitoring with Vigileo device
   - Treat broadly for infection per above
   - IV hydrocort Q6 for adrenal insufficiency, will start wean today with
   50mg q12, and subsequent wean over next few days.
   - Initially concerned for PE, however have more likley explanations for
   hypotension as listed above, LENIs negative
   - Guaiac stools, HCT has been stable.
   # Metastatic renal CA: Recurrent disease s/p donor lymphocyte
   transplant [**12-8**].
   - BMT to follow
   - Continue acyclovir ppx for now, will discuss with BMT
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-4-20**] 02:00 AM 20 mL/hour
   Glycemic Control:  ssi
   Lines:
   Multi Lumen - [**2120-4-15**] 11:24 PM
   Arterial Line - [**2120-4-16**] 12:14 AM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: famotidine [**Hospital1 **]
   VAP:  chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2120-04-20 10:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 yo male with met renal cell CA admitted with severe resp
   failure/PNA, cardiogenic/septic shock. RV hypoplasia
   24 Hour Events:
   #Weaned abx: Bactrim to prophylaxis doses
   #Weaned stress dose steroids
   #Wean off dobutamine (has RV hypoplasia in the setting of
   COPD/hypoxia/pulmonary fibrosis)
   #Sedation: IV methadone
   #Lactulose added with BM this am
   History obtained from Medical records
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2120-4-18**] 04:30 PM
   Bactrim (SMX/TMP) - [**2120-4-19**] 09:00 AM
   Caspofungin - [**2120-4-19**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-19**] 10:00 PM
   Vancomycin - [**2120-4-20**] 08:05 AM
   Levofloxacin - [**2120-4-20**] 09:11 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 400 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-4-19**] 08:15 PM
   Famotidine (Pepcid) - [**2120-4-20**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-20**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 67 (47 - 91) bpm
   BP: 133/60(83) {110/42(61) - 148/65(90)} mmHg
   RR: 26 (26 - 34) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
   CVP: 314 (6 - 314)mmHg
   CO/CI (CCO): (4.3 L/min) / (2.3 L/min/m2)
   Total In:
                                                                  5,654 mL
                                                                  1,347 mL
   PO:
   TF:
                                                                    128 mL
   IVF:
                                                                  4,015 mL
                                                                    939 mL
   Blood products:
   Total out:
                                                                  3,280 mL
                                                                    765 mL
   Urine:
                                                                  3,280 mL
                                                                    765 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,374 mL
                                                                    582 mL
   Respiratory support
   Ventilator mode: PCV+
   PC : 28 cmH2O
   RR (Set): 30
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 34 cmH2O
   SpO2: 92%
   ABG: 7.46/36/87.[**Numeric Identifier 244**]/24/1
   Ve: 16.7 L/min
   PaO2 / FiO2: 176
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   136 K/uL
   91 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.0 mEq/L
   26 mg/dL
   112 mEq/L
   145 mEq/L
   31.7 %
   10.2 K/uL
        [image002.jpg]
                             [**2120-4-18**]  12:10 PM
                             [**2120-4-18**]  02:14 PM
                             [**2120-4-18**]  08:25 PM
                             [**2120-4-18**]  10:25 PM
                             [**2120-4-19**]  03:04 AM
                             [**2120-4-19**]  04:30 AM
                             [**2120-4-19**]  04:46 AM
                             [**2120-4-19**]  04:59 PM
                             [**2120-4-20**]  03:12 AM
                             [**2120-4-20**]  06:06 AM
   WBC
   13.5
   10.2
   Hct
   31.8
   31.7
   Plt
   130
   136
   Cr
   1.0
   1.1
   TCO2
   23
   22
   23
   24
   26
   25
   26
   26
   Glucose
   98
   91
   Other labs: PT / PTT / INR:14.6/29.1/1.3, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:57/31, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.7 g/dL, LDH:272 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.8
   mg/dL
   Imaging: [**4-20**]: continued bilateral infiltrates
   Microbiology: BdCx NGTD
   Assessment and Plan
   #Respiratory failure/ARDS: Remains vent-dependent on pressure control
   ventilation: Recheck ABG after decreasing vent rate. Want to decrease
   borderline transpulm pressure- likely will further reduce PC
   #ID: Causes of sepsis unclear. Continue antibiotics, f/u cultures.
   #Septic/cardiogenic shock:Off dobutamine. CI lower, but maintaining BP.
   Continue to monitor. Continue afterload reduction with Ace inhibitor
   #Sedation: On Methadone, versed/fentanyl. Current level of sedation
   adequate.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-4-20**] 02:00 AM 20 mL/hour
   Comments: Had high residuals yesterday but improving; advance to goal
   as tolerated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2120-4-15**] 11:24 PM
   Arterial Line - [**2120-4-16**] 12:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2120-04-21 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2120-4-20**] 06:04 PM
   Vent changes:
   Decreased rr to 30 from 36, driving pressure to 26 from 28: 7.4/38/89
   Rate decreased to 26 from 30, patient
agitated
 and [**Last Name (LF) 2305**], [**First Name3 (LF) **]
   increased rr to 30 and temp 100% fio2.
   Overnight dropped tidal volumes, and change in compliance, was
   suctioned, ? mucous plug.  Cxr obtained, w/ ? new L mid lung / lingula
   opacification.
   Driving pressure increased back to 28 in light of this.
   TV improved back to normal.
   TUBE feed rate increased
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2120-4-19**] 09:00 AM
   Levofloxacin - [**2120-4-20**] 09:11 AM
   Vancomycin - [**2120-4-20**] 08:00 PM
   Caspofungin - [**2120-4-20**] 08:23 PM
   Acyclovir - [**2120-4-21**] 12:17 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-21**] 05:15 AM
   Infusions:
   Fentanyl - 500 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-4-20**] 08:22 PM
   Famotidine (Pepcid) - [**2120-4-20**] 08:23 PM
   Midazolam (Versed) - [**2120-4-21**] 01:15 AM
   Fentanyl - [**2120-4-21**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-21**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 48 (45 - 67) bpm
   BP: 114/51(69) {114/51(69) - 144/73(97)} mmHg
   RR: 30 (23 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
    CVP: 15 (12 - 314)mmHg
   CO/CI (CCO): (4.5 L/min) / (2.4 L/min/m2)
   Total In:
                                                                  3,451 mL
                                                                  1,236 mL
   PO:
   TF:
                                                                    485 mL
                                                                    458 mL
   IVF:
                                                                  2,506 mL
                                                                    528 mL
   Blood products:
   Total out:
                                                                  1,805 mL
                                                                    600 mL
   Urine:
                                                                  1,805 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,646 mL
                                                                    636 mL
   Respiratory support
   Ventilator mode: PCV+
   PC : 28 cmH2O
   RR (Set): 30
   PEEP: 12 cmH2O
   FiO2: 1%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   SpO2: 92%
   ABG: 7.41/40/85.[**Numeric Identifier 128**]/26/0
   Ve: 15 L/min
   PaO2 / FiO2: 17,000
   Physical Examination
   Gen: eyes open, not following commands, some evidence of localization
   side to side when calling name
   Heent: pupils equal.  Intubated, ng tube and esophageal balloon in
   place
   Cor: rrr, nls1s2 no mrg
   Pul: cta anteriorly
   Abd: moderately distended.  Bowel sounds present, no guarding, no
   tenderness / facial grimacing w/ palpation, no masses
   Extreme: warm, 2+ pitting edema to mid-thigh
   Neuro: sedated, eyes open, not responding to commands,
   Labs / Radiology
   120 K/uL
   10.3 g/dL
   122 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   26 mg/dL
   110 mEq/L
   142 mEq/L
   31.2 %
   12.1 K/uL
        [image002.jpg]
                             [**2120-4-19**]  04:46 AM
                             [**2120-4-19**]  04:59 PM
                             [**2120-4-20**]  03:12 AM
                             [**2120-4-20**]  06:06 AM
                             [**2120-4-20**]  02:28 PM
                             [**2120-4-20**]  06:28 PM
                             [**2120-4-20**]  09:12 PM
                             [**2120-4-21**]  01:58 AM
                             [**2120-4-21**]  04:48 AM
                             [**2120-4-21**]  05:04 AM
   WBC
   10.2
   12.1
   Hct
   31.7
   31.2
   Plt
   136
   120
   Cr
   1.1
   1.0
   TCO2
   25
   26
   26
   24
   24
   26
   28
   26
   Glucose
   91
   122
   Other labs: PT / PTT / INR:13.5/29.8/1.2, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:57/31, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L,
   Albumin:2.7 g/dL, LDH:272 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.1
   mg/dL
   Micro
   Blood culture 4/15+[**4-15**] pending
   Urine culture final negative
   Legionella negative
   RADS
   [**4-20**]
   Cxr
   Persistent abnormal interstitial pattern. Diagnostic considerations
   include
   pulmonary fibrosis.
   Support lines unchanged, allowing for differences in patient
   positioning. The
   feeding tube is again noted to terminate at the GE junction. The
   feeding tube
   should be advanced.
   **the
 feeding tube
 is actually the esophageal balloon in correct
   position.  Ng tube is seen below diaphragm.
   Assessment and Plan
   50M h/o metastatic renal CA s/p nephrectomy, IL-2, mini-allograft SCT,
   DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis on home 02
   presented to OSH with hypoxic respiratory failure, fevers and
   hypotension.
   # Respiratory failure:
   Pneumonia as likely source of resp failure and sepsis in patient with
   poor pulmonary reserve due to emphysema, ?GVHD, fibrosis.
   Pt was dysynchronous w/ vent yesterday w/ decreasing sedation of fent /
   midazolam although methadone was added; oxygenation seems to worsen
   when patient is dysynchronous / less sedated.
   Sats decreased overnight and placed back on 50% FiO2.
   Had air trapping w/ high RR; will decrease RR and driving pressure if
   tolerates.
   Cont sedation w/ fent / midazolam / methadone; no urgency in relieving
   sedating w/ high vent needs.
   # Septic shock:
   **Likely source pneumonia.  On very broad coverage w/ vancomycin,
   levofloxacin, bactrim (now only ppx dosing), caspofungin.
   All other cultures pending.  WBC and fever curve responding well.  Will
   cont broad coverage for now; consider d/c caspofungin tomorrow if
   cultures negative, since this is unlikely acute fungal pneumonia, and
   more likely bacterial.
   Since responding no need for CT chest currently.
   Also, won
t tolerate bronch at this point, plus diagnostic studies
   probably no longer useful (culture).
   - f/u cultures
   - Legionella urine ag negative, all other cultures no growth to date.
   - D/C caspofungin sun if cultures negative
   - Glucan, galactomannan  pending
   - Follow WBC count, fever curve, decreasing
   - PPD negative
   - Continue acyclovir ppx, vanc/zosyn/levoflox
   **Hypotension
   Now improved BPs, off dobutamine.
   Shock likely mix of septic, cardiogenic, and metabolic (absolute
   adrenal insufficiency).  CVP goal > 8, and meeting that criteria.  From
   cardiac perspective, RV hypokinesis and dysfunction though to be [**2-3**]
   high intrapulmonary pressures (hypoxia, pulmonary fibrosis).  Now able
   to maintain BP off dobutamine.  Although CI decreased, will cont to
   follow urine output and MAP trend.
   For endocrine, pt w/ hx of adrenalectomy and adrenal gland w/ mets.
   - cont IV hydrocortisone taerp.
   # Metastatic renal CA: Recurrent disease s/p donor lymphocyte
   transplant [**12-8**].
   - BMT to follow
   - Continue acyclovir ppx for now, will discuss with BMT
   # Sedation
   Goals of sedation have been clarified; being too light was causing
   problems w/ oxygenation.  Pt also was requiring supra-normal levels of
   midaz/fentanyl. Now adequately sedated on midax / fent / methadone.
   Cont this regimen for now and hold off on further sedation until
   ventilatory needs decrease.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-4-21**] 05:04 AM 70 mL/hour
   Glycemic Control:  ssi
   Lines:
   Multi Lumen - [**2120-4-15**] 11:24 PM
   Arterial Line - [**2120-4-16**] 12:14 AM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: [**Hospital1 **] famotidine
   VAP:  vap bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2120-04-21 10:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   met renal CA with PNA/mixed cardiogenic shock
   24 Hour Events:
   Vent: decreased rate/pressure on PC ventilation. Then, got agitated
   with desats-->R back up to 30. Improved with suctioning. ? new lingular
   process on CXR
   TF increased
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2120-4-19**] 09:00 AM
   Levofloxacin - [**2120-4-20**] 09:11 AM
   Caspofungin - [**2120-4-20**] 08:23 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-21**] 05:15 AM
   Acyclovir - [**2120-4-21**] 08:03 AM
   Vancomycin - [**2120-4-21**] 08:04 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 500 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-4-20**] 08:22 PM
   Midazolam (Versed) - [**2120-4-21**] 01:15 AM
   Fentanyl - [**2120-4-21**] 01:15 AM
   Famotidine (Pepcid) - [**2120-4-21**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-21**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 43 (43 - 63) bpm
   BP: 136/64(84) {114/51(69) - 144/73(97)} mmHg
   RR: 30 (23 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
   CVP: 20 (12 - 24)mmHg
   CO/CI (CCO): (4.5 L/min) / (2.4 L/min/m2)
   Total In:
                                                                  3,451 mL
                                                                  2,065 mL
   PO:
   TF:
                                                                    485 mL
                                                                    696 mL
   IVF:
                                                                  2,506 mL
                                                                  1,039 mL
   Blood products:
   Total out:
                                                                  1,805 mL
                                                                  1,100 mL
   Urine:
                                                                  1,805 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,646 mL
                                                                    965 mL
   Respiratory support
   Ventilator mode: PCV+
   PC : 28 cmH2O
   RR (Set): 30
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 39 cmH2O
   SpO2: 93%
   ABG: 7.41/40/85.[**Numeric Identifier 128**]/26/0
   Ve: 12.7 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, No(t) Thin,
   No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Bilateral  radial pulse:
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   No(t) Tender:
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Tactile stimuli, Movement: No spontaneous
   movement, Sedated, Tone: Normal
   Labs / Radiology
   10.3 g/dL
   120 K/uL
   122 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   26 mg/dL
   110 mEq/L
   142 mEq/L
   31.2 %
   12.1 K/uL
        [image002.jpg]
                             [**2120-4-19**]  04:46 AM
                             [**2120-4-19**]  04:59 PM
                             [**2120-4-20**]  03:12 AM
                             [**2120-4-20**]  06:06 AM
                             [**2120-4-20**]  02:28 PM
                             [**2120-4-20**]  06:28 PM
                             [**2120-4-20**]  09:12 PM
                             [**2120-4-21**]  01:58 AM
                             [**2120-4-21**]  04:48 AM
                             [**2120-4-21**]  05:04 AM
   WBC
   10.2
   12.1
   Hct
   31.7
   31.2
   Plt
   136
   120
   Cr
   1.1
   1.0
   TCO2
   25
   26
   26
   24
   24
   26
   28
   26
   Glucose
   91
   122
   Other labs: PT / PTT / INR:13.5/29.8/1.2, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:57/31, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L,
   Albumin:2.7 g/dL, LDH:272 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.1
   mg/dL
   Imaging: CXR: bilteral infiltrates, possible increase lingular/r base
   Microbiology: galactomanan pending
   Assessment and Plan
   50 year old male with hypoxic resp failure/PNA, COPD/pulm fibrosis, dil
   RV
   #Acute resp failure: Mixed picture with sepsis, cardiogenic.
   Minimal progress made on ventilator yesterday. Attempt diuresis.
   Will try decreasing driving pressure, no change in PEEP/FiO2
   #Sedation: under reasonable limits per nursing. Continue
   versed/fentanyl/methadone
   #Sepsis: No recent fevers. Continue LVQ/vanc/zosyn for [**10-15**] day
   course. Continue caspofungin
   Wean steroids (stress-dose + presumptive PCP)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-4-21**] 07:51 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2120-4-15**] 11:24 PM
   Arterial Line - [**2120-4-16**] 12:14 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2120-04-22 07:09:00 Physician Resident Progress Note
Chief Complaint: 50M h/o metastatic renal CA s/p nephrectomy, IL-2,
   mini-allograft SCT, DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis
   on home 02 presents with hypotension, fevers, hypoxemic respiratory
   failure.
   24 Hour Events:
   -Did not tolerate weaning sedation
   -Remains bradycardic in 40s
   -Decreased driving pressures throughout the day, now at 26
   -Got lasix gtt to which he responded, put out >2L in afternoon, was
   stopped, BP stable, now autodiuresing
   -Increased ACEI
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2120-4-19**] 09:00 AM
   Levofloxacin - [**2120-4-20**] 09:11 AM
   Acyclovir - [**2120-4-21**] 04:18 PM
   Caspofungin - [**2120-4-21**] 08:00 PM
   Vancomycin - [**2120-4-21**] 08:33 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-22**] 05:54 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 500 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2120-4-21**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-4-21**] 08:32 PM
   Famotidine (Pepcid) - [**2120-4-21**] 08:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-22**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 45 (41 - 60) bpm
   BP: 131/57(79) {119/50(69) - 159/69(94)} mmHg
   RR: 30 (21 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
    CVP: 11 (6 - 20)mmHg
   CO/CI (CCO): (5.1 L/min) / (2.7 L/min/m2)
   Total In:
                                                                  5,547 mL
                                                                  1,369 mL
   PO:
   TF:
                                                                  2,460 mL
                                                                    539 mL
   IVF:
                                                                  2,577 mL
                                                                    580 mL
   Blood products:
   Total out:
                                                                  7,120 mL
                                                                  1,020 mL
   Urine:
                                                                  7,120 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,573 mL
                                                                    349 mL
   Respiratory support
   Ventilator mode: PCV+
   PC : 26 cmH2O
   RR (Set): 30
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 37 cmH2O
   SpO2: 94%
   ABG: 7.45/50/98.[**Numeric Identifier 248**]/33/8
   Ve: 14 L/min
   PaO2 / FiO2: 196
   Physical Examination
   Gen: eyes open, not following commands, some localization to voice
   Heent: pupils equal.  Intubated, ng tube and esophageal balloon in
   place
   Cor: rrr, nls1s2 no mr
   Pul: cta anteriorly
   Abd: moderately distended.  Bowel sounds present, no guarding, no
   tenderness
   Extreme: warm, 2+ pitting edema to mid-thigh
   Neuro: sedated, not responding to commands
   Labs / Radiology
   135 K/uL
   10.8 g/dL
   99 mg/dL
   1.0 mg/dL
   33 mEq/L
   2.8 mEq/L
   24 mg/dL
   107 mEq/L
   148 mEq/L
   31.9 %
   12.5 K/uL
        [image002.jpg]
                             [**2120-4-20**]  06:06 AM
                             [**2120-4-20**]  02:28 PM
                             [**2120-4-20**]  06:28 PM
                             [**2120-4-20**]  09:12 PM
                             [**2120-4-21**]  01:58 AM
                             [**2120-4-21**]  04:48 AM
                             [**2120-4-21**]  05:04 AM
                             [**2120-4-21**]  08:15 PM
                             [**2120-4-22**]  04:54 AM
                             [**2120-4-22**]  05:34 AM
   WBC
   12.1
   12.5
   Hct
   31.2
   31.9
   Plt
   120
   135
   Cr
   1.0
   1.0
   TCO2
   26
   24
   24
   26
   28
   26
   33
   36
   Glucose
   122
   99
   Other labs: PT / PTT / INR:13.1/32.2/1.1, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:57/31, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L,
   Albumin:2.7 g/dL, LDH:272 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.6
   mg/dL
   Imaging: CXR [**4-21**]: No interval change
   Microbiology: All micro negative to date
   Assessment and Plan
   50M h/o metastatic renal CA s/p nephrectomy, IL-2, mini-allograft SCT,
   DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis on home 02
   presented to OSH with hypoxic respiratory failure, fevers and
   hypotension.
   # Respiratory failure:  Pneumonia as likely source of resp failure and
   sepsis in patient with poor pulmonary reserve due to emphysema, ?GVHD,
   fibrosis.  Overall not tolerating vent wean well.  Driving pressures
   decreased over the day yesterday.
   Cont sedation w/ fent / midazolam / methadone; no urgency in relieving
   sedating w/ high vent needs.
   - Diuresed significantly on lasix gtt, now autodiuresising, goal I/O
   500-1000mL neg to improve oxygenation now that BP / shock has resolved.
   Will continue to monitor
   - No changes to FiO2 / Peep until oxygenation improves
   - No change to A/C as patient has been tolerating PCV well
   - Decrease driving pressure again today and re-eval abg in attempt to
   reduce intrathoracic pressures and barotrauma
   # Shock: Multifactorial
   ** Sepsis: Likely source pneumonia.  On very broad coverage w/
   vancomycin, levofloxacin, zosyn, bactrim (now only ppx dosing),
   caspofungin.  All other cultures pending.  WBC and fever curve
   improving slightly.
   - D/C caspo when beta glucan / galactomannan negative per BMT
   - F/u cultures, will pan-culture today as no micro since [**2120-4-16**].
   - PPD negative
   - Continue acyclovir ppx, vanc/zosyn/levoflox for 14 day course, now
   [**7-15**]
   **Cardiogenic
   ## Pump: Now improved BPs, off dobutamine. W/ dilated hypokinetic RV,
   likely causative in hypotension.  Now BP recovering well.  Increased
   ACEI yesterday for BP contol and afterload reduction which patient has
   tolerated well. No further change today
   ## Rhythm: Sinus bradycardia.  ? med effect.  Sustaining blood pressure
   well, no need for atropine.
   QTc: prolonged mimimally to 485.  Cont check EKG w/ levofloxacin,
   methadone.
   **Endocrine
   ? absolute adrenal insufficiency, appears unlikely as patient was not
   on steroids at home.  Pt w/ hx of adrenalectomy and adrenal gland w/
   mets.
   - 60 mg po prednisone today and cont w/ rapid PO pred taper, decrease
   to 40->20->10 then off.
   # Metastatic renal CA: Recurrent disease s/p donor lymphocyte
   transplant [**12-8**].
   - BMT to follow
   - Continue acyclovir and bactrim ppx for now, will discuss with BMT
   # Sedation:  Goals of sedation have been clarified; being too light was
   causing problems w/ oxygenation.  Pt also was requiring supra-normal
   levels of midaz/fentanyl. Now adequately sedated on midax / fent /
   methadone.
   - Cont current regimen for now. Will titrate sedation as tolerated
   trying to minimize agitation as this has been interfering with his
   ventilation.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-4-22**] 12:09 AM 70 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2120-4-15**] 11:24 PM
   Arterial Line - [**2120-4-16**] 12:14 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: Famotidine [**Hospital1 **]
   VAP:   VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2120-04-22 11:26:00 Physician Attending Progress Note
Chief Complaint: shock/resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 yo male with metastatic renal cell CA s/p allo-SCT, COPD/fibrosis
   admitted with resp failure/shock. Mixed septic/cardiogenic picture with
   resp failure related to probable infxn superimposed on RV failure/pHTN,
   severe chronic pulm ds
   24 Hour Events:
   *Still bradycardic
   *Vent wean: Decreased to PC 24
   *Diuresed
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2120-4-21**] 04:18 PM
   Caspofungin - [**2120-4-21**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-22**] 05:54 AM
   Vancomycin - [**2120-4-22**] 08:28 AM
   Levofloxacin - [**2120-4-22**] 09:41 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-4-21**] 08:32 PM
   Famotidine (Pepcid) - [**2120-4-22**] 07:51 AM
   Other medications:
   ASA, folic acid, SSI, lactulose, captopril, prednisone 60mg qd
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-22**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 41 (41 - 60) bpm
   BP: 125/59(79) {119/50(69) - 159/69(93)} mmHg
   RR: 30 (21 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
   CVP: 12 (6 - 18)mmHg
   CO/CI (CCO): (4.4 L/min) / (2.3 L/min/m2)
   Total In:
                                                                  5,547 mL
                                                                  2,454 mL
   PO:
   TF:
                                                                  2,460 mL
                                                                    818 mL
   IVF:
                                                                  2,577 mL
                                                                  1,236 mL
   Blood products:
   Total out:
                                                                  7,120 mL
                                                                  2,310 mL
   Urine:
                                                                  7,120 mL
                                                                  2,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,573 mL
                                                                    144 mL
   Respiratory support
   Ventilator mode: PCV+
   PC : 26 cmH2O
   RR (Set): 30
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 37 cmH2O
   Plateau: 25 cmH2O
   SpO2: 94%
   ABG: 7.45/50/98.[**Numeric Identifier 248**]/33/8
   Ve: 13.9 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud), No(t) S3, No(t) S4,
   No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Wheezes : , decreased at bases No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.8 g/dL
   135 K/uL
   99 mg/dL
   1.0 mg/dL
   33 mEq/L
   2.8 mEq/L
   24 mg/dL
   107 mEq/L
   148 mEq/L
   31.9 %
   12.5 K/uL
        [image002.jpg]
                             [**2120-4-20**]  06:06 AM
                             [**2120-4-20**]  02:28 PM
                             [**2120-4-20**]  06:28 PM
                             [**2120-4-20**]  09:12 PM
                             [**2120-4-21**]  01:58 AM
                             [**2120-4-21**]  04:48 AM
                             [**2120-4-21**]  05:04 AM
                             [**2120-4-21**]  08:15 PM
                             [**2120-4-22**]  04:54 AM
                             [**2120-4-22**]  05:34 AM
   WBC
   12.1
   12.5
   Hct
   31.2
   31.9
   Plt
   120
   135
   Cr
   1.0
   1.0
   TCO2
   26
   24
   24
   26
   28
   26
   33
   36
   Glucose
   122
   99
   Other labs: PT / PTT / INR:13.1/32.2/1.1, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:57/31, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L,
   Albumin:2.7 g/dL, LDH:272 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.6
   mg/dL
   Imaging: CXR (reviewed): ETT properly positioned, continued diffuse
   infiltrates, left HD no longer visualized
   Assessment and Plan
   50 yo male with metastatic renal cell CA s/p allo-SCT, COPD/fibrosis
   admitted with resp failure/shock. Mixed septic/cardiogenic picture with
   resp failure related to probable infxn superimposed on RV failure/pHTN,
   severe chronic pulm ds/COPD/fibrosis
   *Acute respiratory failure. Multifactorial - suspect acute infxn as
   inciting cause, but also COPD/fibrosis and pulm HTN/RV dysfunction
   contributing
   - Remains on high vent support, able to tolerate small decrease in
   driving pressure
   - No further diuresis today given development of metabolic alkalosis.
   Pt appears to be autodiuresing today.
   - Continue to wean vent: decrease driving pressure further. With
   continued diuresis, oxygenation may improve enough to permit decrease
   in PEEP. Once evidence of improved lung compliance (decreased need for
   PC, PEEP), will attempt switch to ACV
   -Sedation wean
   *Cardiogenic/septic shock
   - Hemodynamics unchanged, not requiring pressors or fluids
   - Tolerated ACE-I increase
   *Sepsis/PNA
   - No change in abx regimen
   - low grade fever- will pan culture
   - continue capsofungin until galactomanan returns
   *Bradycardia: sinus origin, BP tolerating. Continue to monitor.
   *Adrenal insufficiency: continue to taper steroids
   Pt
s wife updated.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-4-22**] 12:09 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2120-4-15**] 11:24 PM
   Arterial Line - [**2120-4-16**] 12:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2120-04-23 07:31:00 Physician Resident Progress Note
Chief Complaint: 50M h/o metastatic renal CA s/p nephrectomy, IL-2,
   mini-allograft SCT, DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis
   on home 02 presented to OSH with hypoxic respiratory failure, fevers
   and hypotension.
   24 Hour Events:
   - Still agitated on high doses of fentanyl/versed/methadone; methadone
   increased to q6H (per pharm requested q4H but held off for now due to
   QTc and bradycardia)
   - Patient was very agitated on high doses of Fentanyl/Versed (525/12)
   and methadone q6H -> increased methadone to q4H per pharmacy recs and
   added propofol as patient very agitated...attempting to wean propofol
   and fent/midaz as methadone kicks in throughout the night.
   - Patient became very bradycardic into the 30s, propofol, fent and
   midaz all weaned down with improvement in rates to 40s and 50s with
   minimal to no agitation (though patient more alert)
   - Off lasix gtt but with significant autodiuresis (250-300 cc/hr)
   - 6pm lytes: K 3.4, Mag 2.2, BUN 20, Cr 0.9, repleted K
   - Driving pressure decreased further to 24
   - Glucan/galactomannan still pending, awaiting results to dc caspo
   - Bcx, urine cx, sputum cx sent today as no micro since [**4-16**] and still
   with high WBC and low grade fevers
   - Rapid prednisone taper (60 today, then 40->20->10 then off)
   - BMT recs: no new
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2120-4-21**] 04:18 PM
   Levofloxacin - [**2120-4-22**] 09:41 AM
   Vancomycin - [**2120-4-22**] 08:20 PM
   Caspofungin - [**2120-4-22**] 09:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-23**] 06:01 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-4-22**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2120-4-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-23**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 41 (37 - 116) bpm
   BP: 133/60(82) {123/56(76) - 182/82(116)} mmHg
   RR: 27 (17 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
    CVP: 10 (10 - 21)mmHg
   CO/CI (CCO): (4.4 L/min) / (2.3 L/min/m2)
   Total In:
                                                                  5,866 mL
                                                                    812 mL
   PO:
   TF:
                                                                  1,724 mL
                                                                    328 mL
   IVF:
                                                                  3,392 mL
                                                                    384 mL
   Blood products:
   Total out:
                                                                  5,850 mL
                                                                  1,540 mL
   Urine:
                                                                  5,850 mL
                                                                  1,540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     16 mL
                                                                   -727 mL
   Respiratory support
   Ventilator mode: PCV+
   PC : 24 cmH2O
   RR (Set): 30
   PEEP: 12 cmH2O
   FiO2: 1%
   PIP: 36 cmH2O
   Plateau: 30 cmH2O
   SpO2: 95%
   ABG: 7.47/44/94.[**Numeric Identifier 128**]/32/7
   Ve: 13.5 L/min
   PaO2 / FiO2: 18,800
   Physical Examination
   Gen: eyes open, not following commands, some localization to voice
   Heent: pupils equal.  Intubated, ng tube and esophageal balloon in
   place
   Cor: rrr, nls1s2 no mr
   Pul: cta anteriorly
   Abd: moderately distended.  Bowel sounds present, no guarding, no
   tenderness
   Extreme: warm, 2+ pitting edema to mid-thigh
   Neuro: sedated, not responding to commands
   Labs / Radiology
   174 K/uL
   10.8 g/dL
   115 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.3 mEq/L
   19 mg/dL
   106 mEq/L
   144 mEq/L
   32.5 %
   12.9 K/uL
        [image002.jpg]
                             [**2120-4-21**]  01:58 AM
                             [**2120-4-21**]  04:48 AM
                             [**2120-4-21**]  05:04 AM
                             [**2120-4-21**]  08:15 PM
                             [**2120-4-22**]  04:54 AM
                             [**2120-4-22**]  05:34 AM
                             [**2120-4-22**]  05:52 PM
                             [**2120-4-22**]  08:48 PM
                             [**2120-4-23**]  04:35 AM
                             [**2120-4-23**]  04:49 AM
   WBC
   12.1
   12.5
   12.9
   Hct
   31.2
   31.9
   32.5
   Plt
   120
   135
   174
   Cr
   1.0
   1.0
   0.9
   0.8
   TCO2
   28
   26
   33
   36
   36
   33
   Glucose
   122
   99
   115
   Other labs: PT / PTT / INR:13.1/32.2/1.1, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:57/31, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.6 g/dL, LDH:272 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   50M h/o metastatic renal CA s/p nephrectomy, IL-2, mini-allograft SCT,
   DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis on home 02
   presented to OSH with hypoxic respiratory failure, fevers and
   hypotension.
   # Respiratory failure:  Pneumonia as likely source of resp failure and
   sepsis in patient with poor pulmonary reserve due to emphysema, ?GVHD,
   fibrosis.  Overall not tolerating vent wean well.  Driving pressures
   decreased over the day yesterday.
   Cont sedation w/ fent / midazolam / methadone; no urgency in relieving
   sedating w/ high vent needs.
   - Diuresed significantly on lasix gtt, now autodiuresising, goal I/O
   500-1000mL neg to improve oxygenation now that BP / shock has resolved.
   Will continue to monitor
   - No changes to FiO2 / Peep until oxygenation improves
   - No change to A/C as patient has been tolerating PCV well
   - Decrease driving pressure again today and re-eval abg in attempt to
   reduce intrathoracic pressures and barotrauma
   # Shock: Multifactorial
   ** Sepsis: Likely source pneumonia.  On very broad coverage w/
   vancomycin, levofloxacin, zosyn, bactrim (now only ppx dosing),
   caspofungin.  All other cultures pending.  WBC and fever curve
   improving slightly.
   - D/C caspo when beta glucan / galactomannan negative per BMT
   - F/u cultures, will pan-culture today as no micro since [**2120-4-16**].
   - PPD negative
   - Continue acyclovir ppx, vanc/zosyn/levoflox for 14 day course, now
   [**7-15**]
   **Cardiogenic
   ## Pump: Now improved BPs, off dobutamine. W/ dilated hypokinetic RV,
   likely causative in hypotension.  Now BP recovering well.  Increased
   ACEI yesterday for BP contol and afterload reduction which patient has
   tolerated well. No further change today
   ## Rhythm: Sinus bradycardia.  ? med effect.  Sustaining blood pressure
   well, no need for atropine.
   QTc: prolonged mimimally to 485.  Cont check EKG w/ levofloxacin,
   methadone.
   **Endocrine
   ? absolute adrenal insufficiency, appears unlikely as patient was not
   on steroids at home.  Pt w/ hx of adrenalectomy and adrenal gland w/
   mets.
   - 60 mg po prednisone today and cont w/ rapid PO pred taper, decrease
   to 40->20->10 then off.
   # Metastatic renal CA: Recurrent disease s/p donor lymphocyte
   transplant [**12-8**].
   - BMT to follow
   - Continue acyclovir and bactrim ppx for now, will discuss with BMT
   # Sedation:  Goals of sedation have been clarified; being too light was
   causing problems w/ oxygenation.  Pt also was requiring supra-normal
   levels of midaz/fentanyl. Now adequately sedated on midax / fent /
   methadone.
   - Cont current regimen for now. Will titrate sedation as tolerated
   trying to minimize agitation as this has been interfering with his
   ventilation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-4-15**] 11:24 PM
   Arterial Line - [**2120-4-16**] 12:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-04-24 07:37:00 Physician Resident Progress Note
Chief Complaint: 50M h/o metastatic renal CA s/p nephrectomy, IL-2,
   mini-allograft SCT, DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis
   on home 02 presented to OSH with hypoxic respiratory failure, fevers
   and hypotension
   24 Hour Events:
   - PEEP decreased to 10 and PaO2 104, then decreased to 8 but patient
   didn't tolerate; back up to 10. FiO2 still 50%
   - IP called about trach, plan for today or Thurs with anesthesia
   present
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2120-4-21**] 04:18 PM
   Levofloxacin - [**2120-4-23**] 08:21 AM
   Vancomycin - [**2120-4-23**] 08:27 PM
   Caspofungin - [**2120-4-23**] 09:28 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-24**] 05:50 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2120-4-23**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2120-4-23**] 07:57 PM
   Famotidine (Pepcid) - [**2120-4-23**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-24**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.8
C (96.5
   HR: 53 (50 - 110) bpm
   BP: 142/72(97) {130/68(88) - 182/99(127)} mmHg
   RR: 30 (21 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
    CVP: 15 (10 - 21)mmHg
   Total In:
                                                                  4,414 mL
                                                                  1,155 mL
   PO:
   TF:
                                                                  1,681 mL
                                                                    513 mL
   IVF:
                                                                  2,173 mL
                                                                    362 mL
   Blood products:
   Total out:
                                                                  6,805 mL
                                                                  1,580 mL
   Urine:
                                                                  6,805 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,391 mL
                                                                   -425 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   PC : 24 cmH2O
   RR (Set): 30
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 31 cmH2O
   SpO2: 94%
   ABG: 7.47/47/82.[**Numeric Identifier 96**]/34/8
   Ve: 13 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Gen: eyes open, follows commands to move toes, localization to voice
   Heent: pupils equal.  Intubated
   Cor: rrr, nls1s2 no mr
   Pul: cta anteriorly- mechanical breath sounds
   Abd: moderately distended.  Bowel sounds present, no guarding, no
   tenderness
   Extreme: warm, trace pitting edema to mid-thigh
   Neuro: sedated, but responds to voice and follows some commands
   Labs / Radiology
   144 K/uL
   10.2 g/dL
   92 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.8 mEq/L
   17 mg/dL
   105 mEq/L
   144 mEq/L
   30.8 %
   13.9 K/uL
        [image002.jpg]
                             [**2120-4-22**]  04:54 AM
                             [**2120-4-22**]  05:34 AM
                             [**2120-4-22**]  05:52 PM
                             [**2120-4-22**]  08:48 PM
                             [**2120-4-23**]  04:35 AM
                             [**2120-4-23**]  04:49 AM
                             [**2120-4-23**]  03:50 PM
                             [**2120-4-23**]  07:18 PM
                             [**2120-4-24**]  03:49 AM
                             [**2120-4-24**]  04:48 AM
   WBC
   12.5
   12.9
   13.9
   Hct
   31.9
   32.5
   30.8
   Plt
   135
   174
   144
   Cr
   1.0
   0.9
   0.8
   0.9
   0.9
   TCO2
   36
   36
   33
   33
   35
   Glucose
   99
   115
   101
   92
   Other labs: PT / PTT / INR:13.1/32.2/1.1, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:57/31, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.6 g/dL, LDH:272 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.9
   mg/dL
   Imaging: CXR [**4-23**]: Little overall change
   Microbiology: [**4-22**] BCx x4: NGTD
   Sputum cx and gram stain [**4-22**]: NG
   Assessment and Plan
   50M h/o metastatic renal CA s/p nephrectomy, IL-2, mini-allograft SCT,
   DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis on home 02
   presented to OSH with hypoxic respiratory failure, fevers and
   hypotension.
   # Respiratory failure:  Pneumonia as likely source of resp failure and
   sepsis in patient with poor pulmonary reserve due to emphysema, ?GVHD,
   fibrosis.
   - PEEP decreased to 10 which patient tolerated well (PaO2 104). Did not
   tolerated PEEP decrease to 8 (increased agitation).  PEEP increased
   back to 10 with good response.
   - Sedation on vent, see below
   - No change in PEEP today as did not tolerate, would not change driving
   pressures either as patient now has compensatory respiratory acidosis
   for metabolic alkalosis likely secondary to auto-diuresis.
   - Attempt decrease in FiO2 today (50->40%) as repeat gas this am showed
   7.44/51/109
   - No change to A/C as patient has been tolerating PCV well; once
   sedation is decreased, can consider changing to PSV today.  Changing
   mode of ventilation would likely be next consideration as he will
   likely continue to require high PEEPs
   - Esophageal balloon removed
   - Plan for trach by IP today with anesthesia
   # Sedation:  Goals of sedation have been clarified; being too light was
   causing problems w/ oxygenation.  Pt also was requiring supra-normal
   levels of midaz/fentanyl. Started on propofol for worsening agitation
   causing desats
   -Changed back to methadone q4H, decreasing fentanyl (now off this
   morning).   Also weaning versed (now at 2mg/hr) and preferentially
   using propofol for sedation (currently at 25 requiring occasional
   boluses for agitation).
    - Goal to wean off versed today and keep patient comfortable, awake if
   possible and calm with sedation regimen.
   # Shock: Multifactorial
   ** Sepsis: Likely source pneumonia.  On very broad coverage w/
   vancomycin, levofloxacin, zosyn, bactrim (now only ppx dosing),
   caspofungin.  All other cultures pending.  WBC and fever curve
   improving slightly.
   - D/C caspo when beta glucan / galactomannan negative per BMT
   - F/u cultures- cont to culture with spikes.  Currently afebrile x >24H
   - PPD negative
   - Continue acyclovir ppx, vanc/zosyn/levoflox for 14 day course, today
   is day 6.
   **Cardiogenic
   ## Pump: Now improved BPs, off dobutamine. On captopril for afterload
   reduction. Dilated hypokinetic RV, likely causative in hypotension.
   Now hypertensive.  Increasing to 25mg TID today.
   ## Rhythm: Sinus bradycardia likely secondary to sedatives; increases
   with agitation.  Cont weaning sedation as tolerated.  Continue to
   follow QTc for prolongation given methadone and levoflox, has been wnl
   **Endocrine
   - Cont w/ rapid PO pred taper, decrease to 10 tomorrow then off.
   # Metastatic renal CA: Recurrent disease s/p donor lymphocyte
   transplant [**12-8**].
   - BMT to follow
   - Continue acyclovir and bactrim ppx for now, will discuss with BMT
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-4-23**] 06:54 PM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2120-4-15**] 11:24 PM
   Arterial Line - [**2120-4-16**] 12:14 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:  Mouth care, HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2120-04-25 07:40:00 Physician Resident Progress Note
Chief Complaint: 50M h/o metastatic renal CA s/p nephrectomy, IL-2,
   mini-allograft SCT, DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis
   on home 02 presented to OSH with hypoxic respiratory failure, fevers
   and hypotension with sepsis, cardiogenic shock now unable to wean off
   ventilator.
   24 Hour Events:
   -B-glucan and galactomannan still pending
   -Decreased Fi02 to 40%, hypoxic, increased back to 50% with good
   response
   -TF held at MN for trach/peg.
   -Increased captopril to 25
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2120-4-24**] 09:10 AM
   Vancomycin - [**2120-4-24**] 08:26 PM
   Caspofungin - [**2120-4-24**] 09:28 PM
   Acyclovir - [**2120-4-25**] 12:20 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-25**] 06:24 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-4-24**] 07:41 PM
   Heparin Sodium (Prophylaxis) - [**2120-4-24**] 07:41 PM
   Dextrose 50% - [**2120-4-25**] 06:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-25**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 48 (42 - 111) bpm
   BP: 108/56(73) {98/56(72) - 171/91(120)} mmHg
   RR: 30 (19 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
    CVP: 13 (3 - 13)mmHg
   Total In:
                                                                  3,526 mL
                                                                    413 mL
   PO:
   TF:
                                                                  1,308 mL
                                                                     26 mL
   IVF:
                                                                  1,738 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                  7,165 mL
                                                                    730 mL
   Urine:
                                                                  7,165 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,639 mL
                                                                   -317 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   PC : 24 cmH2O
   RR (Set): 30
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 34 cmH2O
   Plateau: 33 cmH2O
   SpO2: 95%
   ABG: 7.44/50/110/30/8
   Ve: 11.7 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Gen: eyes open, follows commands to move toes, localization to voice
   Heent: pupils equal.  Intubated
   Cor: rrr, nls1s2 no mr
   Pul: cta anteriorly- mechanical breath sounds
   Abd: moderately distended.  Bowel sounds present, no guarding, no
   tenderness
   Extreme: warm, trace pitting edema to mid-thigh
   Neuro: sedated, but responds to voice and follows some commands
   Labs / Radiology
   149 K/uL
   10.6 g/dL
   70 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.8 mEq/L
   19 mg/dL
   105 mEq/L
   141 mEq/L
   31.6 %
   13.6 K/uL
        [image002.jpg]
                             [**2120-4-23**]  03:50 PM
                             [**2120-4-23**]  07:18 PM
                             [**2120-4-24**]  03:49 AM
                             [**2120-4-24**]  04:48 AM
                             [**2120-4-24**]  11:19 AM
                             [**2120-4-24**]  01:45 PM
                             [**2120-4-24**]  08:13 PM
                             [**2120-4-24**]  10:07 PM
                             [**2120-4-25**]  04:05 AM
                             [**2120-4-25**]  04:29 AM
   WBC
   13.9
   13.6
   Hct
   30.8
   31.6
   Plt
   144
   149
   Cr
   0.9
   0.9
   0.9
   1.0
   TCO2
   33
   35
   36
   36
   34
   35
   Glucose
   101
   92
   93
   70
   Other labs: PT / PTT / INR:13.7/42.1/1.2, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:57/31, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.6 g/dL, LDH:272 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.1
   mg/dL
   Imaging: CXR [**4-24**] IMPRESSION:
   1. Decrease in the bilateral pulmonary edema.
   2. Chronic interstitial lung disease.
   3. Lines and tubes are in satisfactory location.
   Microbiology: [**4-22**] Sputum cx: Neg
   [**4-24**] Bcx: NGTD
   Assessment and Plan
   50M h/o metastatic renal CA s/p nephrectomy, IL-2, mini-allograft SCT,
   DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis on home 02
   presented to OSH with hypoxic respiratory failure, sepsis, cardiogenic
   shock, now improving but with difficulty weaning vent.
   # Respiratory failure:  Pneumonia as likely source of resp failure and
   sepsis in patient with poor pulmonary reserve due to emphysema, ?GVHD,
   fibrosis.
   - PEEP decreased to 10 which patient tolerated well (PaO2 104). Did not
   tolerated PEEP decrease to 8 (increased agitation).  PEEP increased
   back to 10 with good response.
   - Sedation on vent, see below
   - No change in PEEP today as did not tolerate, would not change driving
   pressures either as patient now has compensatory respiratory acidosis
   for metabolic alkalosis likely secondary to auto-diuresis.
   - Attempt decrease in FiO2 today (50->40%) as repeat gas this am showed
   7.44/51/109
   - Plan for trach by IP today with anesthesia
   - No change to A/C as patient has been tolerating PCV well; once
   sedation is decreased/trach in place, can consider changing to PSV.
   Changing mode of ventilation would likely be next consideration as he
   will likely continue to require high PEEPs
   # Sedation:  Goals of sedation have been clarified; being too light was
   causing problems w/ oxygenation.  Pt also was requiring supra-normal
   levels of midaz/fentanyl. Started on propofol for worsening agitation
   causing desats
   - On methadone q4H, fentanyl and versed off.  On propofol for sedation,
   currently at 45 mcg/kg/min.
   - Goal to wean propofol as tolerated today (though will await placement
   of trach before making sedation changes).
   # Shock: Multifactorial
   ** Sepsis: Likely source pneumonia.  On very broad coverage w/
   vancomycin, levofloxacin, zosyn, bactrim (now only ppx dosing),
   caspofungin.  All other cultures pending.  WBC and fever curve
   improving slightly.
   - D/C caspo when beta glucan / galactomannan negative per BMT
   - F/u cultures- cont to culture with spikes.  Currently afebrile x >24H
   - PPD negative
   - Continue acyclovir ppx, vanc/zosyn/levoflox for 14 day course, today
   is day 7.
   **Cardiogenic
   ## Pump: Now improved BPs, off dobutamine. On captopril for afterload
   reduction. Dilated hypokinetic RV, likely causative in hypotension.
   Now hypertensive.  Increased to 25mg TID.
   ## Rhythm: Sinus bradycardia likely secondary to sedatives; increases
   with agitation.  Cont weaning sedation as tolerated.  Continue to
   follow QTc for prolongation given methadone and levoflox, has been wnl
   **Endocrine
   - Cont w/ rapid PO pred taper, decrease to 10 today then off.
   # Metastatic renal CA: Recurrent disease s/p donor lymphocyte
   transplant [**12-8**].
   - BMT to follow
   - Continue acyclovir and bactrim ppx for now, will discuss with BMT
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2120-4-15**] 11:24 PM
   Arterial Line - [**2120-4-16**] 12:14 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2120-04-26 07:46:00 Physician Resident Progress Note
Chief Complaint: 50M h/o metastatic renal CA s/p nephrectomy, IL-2,
   mini-allograft SCT, DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis
   on home 02 presented to OSH with hypoxic respiratory failure, fevers
   and hypotension with sepsis, cardiogenic shock now unable to wean off
   ventilator
   24 Hour Events:
 PEG INSERTION - At [**2120-4-25**] 09:45 AM
 PERCUTANEOUS TRACHEOSTOMY - At [**2120-4-25**] 10:10 AM
   - S/p trach and PEG
   - B glucan/galactomannan negative -> caspo discontinued
   - Trach with persistent air-leak, IP made aware by RT, plan to come by
   today to potentially change in am
   - Tolerating PEEP of 5 and maintaining sats >95% during the early
   afternoon
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Caspofungin - [**2120-4-24**] 09:28 PM
   Levofloxacin - [**2120-4-25**] 10:30 AM
   Vancomycin - [**2120-4-25**] 08:45 PM
   Acyclovir - [**2120-4-26**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-26**] 05:30 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2120-4-25**] 10:00 AM
   Famotidine (Pepcid) - [**2120-4-25**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2120-4-25**] 08:00 PM
   Lorazepam (Ativan) - [**2120-4-26**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-26**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.9
   HR: 91 (46 - 93) bpm
   BP: 130/69(89) {96/50(66) - 159/86(111)} mmHg
   RR: 29 (12 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
    CVP: 8 (7 - 14)mmHg
   Total In:
                                                                  2,694 mL
                                                                    496 mL
   PO:
   TF:
                                                                     26 mL
   IVF:
                                                                  2,279 mL
                                                                    381 mL
   Blood products:
   Total out:
                                                                  4,950 mL
                                                                  1,360 mL
   Urine:
                                                                  4,950 mL
                                                                  1,060 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,256 mL
                                                                   -864 mL
   Respiratory support
   Ventilator mode: PCV+
   Vt (Set): 500 (500 - 500) mL
   PC : 24 cmH2O
   RR (Set): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   SpO2: 94%
   ABG: 7.49/34/127/26/3
   Ve: 13.9 L/min
   PaO2 / FiO2: 254
   Physical Examination
   Gen: Sedated, localization to voice
   Heent: pupils equal.  Trached.
   Cor: RRR, nls1s2 no mr
   Pul: CTA anteriorly- mechanical breath sounds
   Abd: moderately distended.  Bowel sounds present, PEG in placed,
   dressed, no guarding, no tenderness
   Extreme: Warm, trace pitting edema to mid-thigh
   Labs / Radiology
   159 K/uL
   11.4 g/dL
   65 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.5 mEq/L
   17 mg/dL
   108 mEq/L
   141 mEq/L
   34.0 %
   15.0 K/uL
        [image002.jpg]
                             [**2120-4-24**]  04:48 AM
                             [**2120-4-24**]  11:19 AM
                             [**2120-4-24**]  01:45 PM
                             [**2120-4-24**]  08:13 PM
                             [**2120-4-24**]  10:07 PM
                             [**2120-4-25**]  04:05 AM
                             [**2120-4-25**]  04:29 AM
                             [**2120-4-25**]  03:23 PM
                             [**2120-4-25**]  06:00 PM
                             [**2120-4-26**]  04:43 AM
   WBC
   13.6
   15.0
   Hct
   31.6
   34.0
   Plt
   149
   159
   Cr
   0.9
   1.0
   1.0
   TCO2
   35
   36
   36
   34
   35
   27
   Glucose
   93
   70
   76
   65
   Other labs: PT / PTT / INR:13.7/42.1/1.2, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:57/31, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.6 g/dL, LDH:272 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.6
   mg/dL
   Microbiology: C. Diff neg x1
   Assessment and Plan
   50M h/o metastatic renal CA s/p nephrectomy, IL-2, mini-allograft SCT,
   DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis on home 02
   presented to OSH with hypoxic respiratory failure, sepsis, cardiogenic
   shock, now improving but with difficulty weaning vent and s/p
   trach/PEG.
   # Respiratory failure:  Pneumonia as likely source of resp failure and
   sepsis in patient with poor pulmonary reserve due to emphysema, ?GVHD,
   fibrosis.   Patient is now s/p trach/PEG.
   - PEEP decreased to 5 yesterday after trach which he has tolerated
   well.  Last ABG 7.49/34/127.
   - Would not change driving pressures either as patient now has
   compensatory respiratory acidosis for metabolic alkalosis likely
   secondary to auto-diuresis.
   - Attempt decrease in FiO2 today (50->40%) -> maintain PaO2 >60.
   Patient's oxygenation has improved.
   - Will decrease RR today to see if patient can breath over the vent on
   his own.  Then can consider decreased driving pressure.
   - Plan to replace trach today by IP given persistent air leak.
   # Sedation:  Currently on methadone q4H, fentanyl and versed off.  On
   propofol for sedation, currently at 30 down from 45 mcg/kg/min.  Off
   fent/versed drips.
   - Goal to wean propofol as tolerated today, triglycerides mildly
   elevated at 182
   - Continue to check triglycerides twice weekly while on propofol.
   - Bolus fentanyl/ativan prn agitation
   - When able, will decrease methadone to q6H then to q8H
   # Shock: Multifactorial
   ** Sepsis: Likely source pneumonia.  On very broad coverage w/
   vancomycin, levofloxacin, zosyn, bactrim (now only ppx dosing),
   caspofungin.  All other cultures pending.  WBC and fever curve
   improving slightly.
   - D/C'd caspo yesterday
   - F/u cultures - cont to culture with spikes.  Currently afebrile x
   >24H
   - PPD negative
   - Continue acyclovir ppx, vanc/zosyn/levoflox for 14 day course, today
   is day 8.
   **Cardiogenic
   ## Pump: Now improved BPs, off dobutamine. On captopril for afterload
   reduction. Dilated hypokinetic RV, likely causative in hypotension.
   Now hypertensive.  Increased to 25mg TID.
   ## Rhythm: Sinus bradycardia likely secondary to sedatives; increases
   with agitation.  Cont weaning sedation as tolerated.  Continue to
   follow QTc for prolongation given methadone and levoflox, has been wnl
   **Endocrine
   - Prednisone off today
   # Metastatic renal CA: Recurrent disease s/p donor lymphocyte
   transplant [**12-8**].
   - BMT to follow
   - Continue acyclovir and bactrim ppx
   ICU Care
   Nutrition:
   Restart TF 24 hours after PEG
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-4-15**] 11:24 PM
   Arterial Line - [**2120-4-16**] 12:14 AM
   Prophylaxis:
   DVT: Pneumoboots, SQ heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2120-04-26 11:09:00 Physician Attending Progress Note
Chief Complaint: hypoxemic resp failure
   HPI:
   50 yo M with metastatic renal cell CA s/p allo- SCT with subsequent
   severe chronic resp failure thought to be emphysema and fibrosis of
   unclear etiology (CT from last spring demonstrates severe cystic and
   fibrotic changes with almost no normal appearing lung) presented with 2
   wk prodrome, presented with catastrophic acute on chronic failure. CXR
   shows diffuse opacification c/w ARDS. Severe shock, initially presumed
   septic but more predominantly cardiogenic. RV with global hypokinesis,
   dilated, mod-sev PAH. Responded well to dobutamine. Was on high dose
   steroids, tapering prednisone and now 40PO qd.
   24 Hour Events:
 PEG INSERTION - At [**2120-4-25**] 09:45 AM
 PERCUTANEOUS TRACHEOSTOMY - At [**2120-4-25**] 10:10 AM
   s/p trach/PEG, trach w/persistent air leak- IP to change today
   beta glucan and galactomannan negative so caspo d/c'd
   tolerating peep 5
   PCV 20/5 x30 (breathes up to 40 when awake), FiO2 0.5
   propofol gtt 20 (HTN, tachy when propofol shut off this am)
   mehtadone 20mg q4hrs
   intermittent 1mg ativan boluses for agitation
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Caspofungin - [**2120-4-24**] 09:28 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-26**] 05:30 AM
   Acyclovir - [**2120-4-26**] 08:15 AM
   Vancomycin - [**2120-4-26**] 08:16 AM
   Levofloxacin - [**2120-4-26**] 08:16 AM
   Bactrim (SMX/TMP) - [**2120-4-26**] 08:16 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-4-25**] 08:00 PM
   Lorazepam (Ativan) - [**2120-4-26**] 06:20 AM
   Famotidine (Pepcid) - [**2120-4-26**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-26**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 88 (48 - 117) bpm
   BP: 106/73(79) {106/72(50) - 164/94(111)} mmHg
   RR: 30 (12 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
   CVP: 7 (7 - 14)mmHg
   Total In:
                                                                  2,694 mL
                                                                  1,017 mL
   PO:
   TF:
                                                                     26 mL
   IVF:
                                                                  2,279 mL
                                                                    822 mL
   Blood products:
   Total out:
                                                                  4,950 mL
                                                                  1,765 mL
   Urine:
                                                                  4,950 mL
                                                                  1,465 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,256 mL
                                                                   -748 mL
   Respiratory support
   Ventilator mode: PCV+
   Vt (Set): 500 (500 - 500) mL
   PC : 20 cmH2O
   RR (Set): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 25 cmH2O
   Plateau: 25 cmH2O
   SpO2: 94%
   ABG: 7.49/34/127/26/3
   Ve: 13.8 L/min
   PaO2 / FiO2: 254
   Physical Examination
   General Appearance: No acute distress
   Lymphatic: trach in place
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), coarse BS anteriorly b/l
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   g-tube site ok
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, opens eyes/orients to voice, does not follow commands
   Labs / Radiology
   11.4 g/dL
   159 K/uL
   65 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.5 mEq/L
   17 mg/dL
   108 mEq/L
   141 mEq/L
   34.0 %
   15.0 K/uL
        [image002.jpg]
                             [**2120-4-24**]  04:48 AM
                             [**2120-4-24**]  11:19 AM
                             [**2120-4-24**]  01:45 PM
                             [**2120-4-24**]  08:13 PM
                             [**2120-4-24**]  10:07 PM
                             [**2120-4-25**]  04:05 AM
                             [**2120-4-25**]  04:29 AM
                             [**2120-4-25**]  03:23 PM
                             [**2120-4-25**]  06:00 PM
                             [**2120-4-26**]  04:43 AM
   WBC
   13.6
   15.0
   Hct
   31.6
   34.0
   Plt
   149
   159
   Cr
   0.9
   1.0
   1.0
   TCO2
   35
   36
   36
   34
   35
   27
   Glucose
   93
   70
   76
   65
   Other labs: PT / PTT / INR:13.7/42.1/1.2, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:57/31, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.6 g/dL, LDH:272 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   50 yo man with metastatic renal cell CA s/p allo- SCT with subsequent
   severe chronic resp failure thought to be emphysema and fibrosis of
   unclear etiology (CT from last spring demonstrates severe cystic and
   fibrotic changes with almost no normal appearing lung) presented with 2
   wk prodrome, presented with catastrophic acute on chronic failure. CXR
   shows diffuse opacification c/w ARDS. Severe shock, initially presumed
   septic but more predominantly cardiogenic. RV with global hypokinesis,
   dilated, mod-sev PAH. Responded well to dobutamine. Was on high dose
   steroids, now tappered off.
   Slowly improving.
   Abx: Vanco/Levoflox/Zosyn/bactrim and acyclovir  prophylaxis
   #CARDIOGENIC SHOCK-resolved, PAH, RV FAILURE
   Stable on increased dose captopril for afterload reduction, mildly
   hypertensive.  Autodiuresing.  Rpt TTE in a couple of weeks.
    #Hypoxemic resp failure s/p trach, to be changed today given cuff
   leak.  Tolerating wean of driving pressure and peep.  PS trial post
   trach change today.
   No sig changes on vent today, given s/p trach this morning and on PEEP
   10.
   #INFECTION
   D10/14 empiric vanc/zosyn/levoflox, also on prophylactic bactrim and
   acyclovir.  Febrile this am- pan cx.
   #Sedation
   Off fentanyl and versed. Continues on propofol and methadone w/bolus
   ativan as needed for pain/agitation.  Cont to wean propofol.  Will
   decrease methadone to q6 then q8, after come down further on propofol.
   QTc okay. TG fine on propofol, check BIW.
   #NUTRITION
   Resume TF today
   HepSC, ranitidine, oral care, pneumoboots, HOB up.
   Patient is critically ill.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2120-4-15**] 11:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45

2120-04-27 08:25:00 Physician Resident Progress Note
Chief Complaint: 50M h/o metastatic renal CA s/p nephrectomy, IL-2,
   mini-allograft SCT, DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis
   on home 02 presented to OSH with hypoxic respiratory failure, sepsis,
   cardiogenic shock, now improving but with difficulty weaning vent and
   s/p trach/PEG.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2120-4-26**] 08:00 AM
   - hypotensive to the 70s after trial of PS.  Unclear why, but thought
   that maybe [**2-3**] preload dependancy and increased PEEP, and
   intravascularly volume deplete from all of the auto-diuresis
   - given 3L NS with improvement in his BP to the 90s
   - IP felt that cuff leak not significant enough to do anything about
   right now; will re-evaluate in a few days when tract is more matured
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Caspofungin - [**2120-4-24**] 09:28 PM
   Levofloxacin - [**2120-4-26**] 08:16 AM
   Bactrim (SMX/TMP) - [**2120-4-26**] 08:16 AM
   Vancomycin - [**2120-4-26**] 08:03 PM
   Acyclovir - [**2120-4-27**] 12:17 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-27**] 06:02 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2120-4-26**] 12:45 PM
   Heparin Sodium (Prophylaxis) - [**2120-4-26**] 08:00 PM
   Famotidine (Pepcid) - [**2120-4-26**] 09:58 PM
   Other medications:
   Senna prn
   Artificial tears prn
   Captopril 25mg TID
   Methadone 20mg Q4
   Nystatin
   Bactrim
   Acetaminophen prn
   Folic acid
   Albuterol prn
   Acyclovir
   Asa
   ISS
   Docusate prn
   Bisacodyl prn
   Chlorhexidine
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Intubated
   Flowsheet Data as of  [**2120-4-27**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.9
C (98.4
   HR: 67 (61 - 138) bpm
   BP: 116/67(79) {81/49(50) - 130/94(102)} mmHg
   RR: 18 (13 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
    CVP: 10 (5 - 17)mmHg
   Total In:
                                                                  5,572 mL
                                                                    963 mL
   PO:
   TF:
                                                                    311 mL
                                                                    439 mL
   IVF:
                                                                  4,766 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                  3,713 mL
                                                                    860 mL
   Urine:
                                                                  3,113 mL
                                                                    860 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  1,859 mL
                                                                    103 mL
   Respiratory support
   Ventilator mode: PCV+
   Vt (Spontaneous): 470 (470 - 740) mL
   PC : 24 cmH2O
   PS : 20 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 29 cmH2O
   SpO2: 93%
   ABG: 7.38/49/67/23/2
   Ve: 11.7 L/min
   PaO2 / FiO2: 112
   Physical Examination
   Gen: Sedated, opens eyes to voice, no purposeful movements, mildly
   agitated, moving legs in bed.
   Heent: pupils equal.  Trached.
   Cor: RRR, nls1s2 no mr
   Pul: CTA anteriorly
 coarse, mechanical breath sounds
   Abd: moderately distended.  Bowel sounds present, PEG in placed,
   dressed, no guarding, no tenderness
   Extreme: Warm, trace pitting edema to mid-thigh
   Labs / Radiology
   145 K/uL
   9.6 g/dL
   80 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.0 mEq/L
   15 mg/dL
   110 mEq/L
   141 mEq/L
   29.2 %
   11.1 K/uL
        [image002.jpg]
                             [**2120-4-24**]  10:07 PM
                             [**2120-4-25**]  04:05 AM
                             [**2120-4-25**]  04:29 AM
                             [**2120-4-25**]  03:23 PM
                             [**2120-4-25**]  06:00 PM
                             [**2120-4-26**]  04:43 AM
                             [**2120-4-26**]  02:25 PM
                             [**2120-4-26**]  05:37 PM
                             [**2120-4-26**]  09:20 PM
                             [**2120-4-27**]  04:49 AM
   WBC
   13.6
   15.0
   11.1
   Hct
   31.6
   34.0
   28.1
   31.5
   29.2
   Plt
   149
   159
   145
   Cr
   1.0
   1.0
   1.0
   TCO2
   34
   35
   27
   30
   Glucose
   70
   76
   65
   80
   Other labs: PT / PTT / INR:13.7/42.1/1.2, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:57/31, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.6 g/dL, LDH:272 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Micro: Blood cultures from [**4-15**], [**4-16**], [**4-22**] and [**4-26**]:  no growth to
   date
   Sputum:  [**4-22**]: No growth
   [**4-26**]: OP contamination, test cancelled
   Urine culture: [**4-15**], [**4-16**], [**4-22**], [**4-26**]: no growth
   c. diff [**4-24**]:  negative
   b-glucan and galactomannan negative
   CXR [**4-27**]:
   FINDINGS:
   On today's examination, there is worsening opacification seen in both
   lungs,
   predominantly in the mid and lower regions. The chronic interstitial
   lung
   disease is stable. The heart size is within normal limits. Minimal
   present
   pleural effusion is again noted with no change. The ET tube is 4.6 cm
   from
   the carina.
   IMPRESSION:
   1. The acute changes noted in both lungs favor edema, although
   aspiration
   cannot be completely excluded.
   2. Chronic interstitial lung fibrotic disease.
   Assessment and Plan
   50M h/o metastatic renal CA s/p nephrectomy, IL-2, mini-allograft SCT,
   DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis on home 02
   presented to OSH with hypoxic respiratory failure, sepsis, cardiogenic
   shock, now improving but with difficulty weaning vent and s/p
   trach/PEG.
   # Respiratory failure:  Pneumonia as likely source of resp failure and
   sepsis in patient with poor pulmonary reserve due to emphysema, ?GVHD,
   fibrosis.   Patient is now s/p trach/PEG on [**4-25**]. PEEP yesterday
   decreased to 5 yesterday after trach placement.  Pt has small cuff
   leak.  IP had evaluated this am and wanted to continue to monitor for
   now.  This am pt agitated, low 02 sats.  Has increasing Fi02
   requirement from 40% now up to 60%.
   -increase PEEP to 8, temporarily switch to volume control to ensure
   adequate tidal volumes on increased PEEP in setting of cuff leak.
   - Driving pressures decreased yesterday from 24 to 20. Continue to
   monitor patient if persistent breathing over vent consider resuming
   prior pressures.
   -attempted PS yesterday, pt became hypotensive.  Now on pressure
   control.
   -treat PNA for planned 14 day course.  B-glucan, galactomannan
   negative, caspogungin d/c
   # Sedation:  Currently on methadone q4H, and propofol for sedation,
   currently at 20 mcg/kg/min.  Off fent/versed drips, using fentanyl and
   lorazepam boluses for agitation.
   - Goal to wean propofol as tolerated today, triglycerides mildly
   elevated at 182
   - Continue to check triglycerides twice weekly while on propofol. Last
   checked [**4-26**]
   - When able, will decrease methadone to q6H then to q8H
   # Shock: Multifactorial, resolved.
   ** Sepsis: Likely source pneumonia.  On very broad coverage w/
   vancomycin, levofloxacin, zosyn, bactrim (now only ppx dosing).  All
   cultures pending or no growth.  WBC stable.
   - D/C'd caspo yesterday
   - F/u cultures - cont to culture with spikes.
   - Continue acyclovir and bactrim ppx, vanc/zosyn/levoflox for 14 day
   course, today is day 10.
   **Cardiogenic
   ## Pump: Now improved BPs, off dobutamine. On captopril for afterload
   reduction. Dilated hypokinetic RV, likely causative in hypotension.
   Now hypertensive.  Increased to 25mg TID [**4-25**].  Will likely need repeat
   ECHO once acute issues resolved to assess for resolution of RV
   dysfunction.
   -will decrease captopril to 12.5 TID in setting of hypotension
   yesterday.
   ## Rhythm: Sinus bradycardia likely secondary to sedatives; increases
   with agitation.  Cont weaning sedation as tolerated.  Continue to
   follow QTc for prolongation given methadone and levoflox, has been wnl
   **Endocrine: relative adrenal [**Name2 (NI) 2411**]
   - Prednisone off today
   # Metastatic renal CA: Recurrent disease s/p donor lymphocyte
   transplant [**12-8**].
   - BMT to follow
   - Continue acyclovir and bactrim ppx
   ICU Care
   Nutrition:
   Restart TF 24 hours after PEG, this pm at 3
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-4-15**] 11:24 PM
   Arterial Line - [**2120-4-16**] 12:14 AM, needs to be replaced
   Prophylaxis:
   DVT: Pneumoboots, SQ heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2120-04-27 10:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hypotension overnight with IVF given and partial response
   24 Hour Events:
 ARTERIAL LINE - STOP [**2120-4-26**] 08:00 AM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Caspofungin - [**2120-4-24**] 09:28 PM
   Bactrim (SMX/TMP) - [**2120-4-26**] 08:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-27**] 06:02 AM
   Acyclovir - [**2120-4-27**] 08:25 AM
   Vancomycin - [**2120-4-27**] 08:30 AM
   Levofloxacin - [**2120-4-27**] 09:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2120-4-26**] 12:45 PM
   Heparin Sodium (Prophylaxis) - [**2120-4-26**] 08:00 PM
   Famotidine (Pepcid) - [**2120-4-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2120-4-27**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.9
   HR: 67 (61 - 138) bpm
   BP: 116/67(79) {81/49(57) - 130/94(102)} mmHg
   RR: 18 (13 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
   CVP: 10 (5 - 17)mmHg
   Total In:
                                                                  5,572 mL
                                                                  1,647 mL
   PO:
   TF:
                                                                    311 mL
                                                                    488 mL
   IVF:
                                                                  4,766 mL
                                                                    739 mL
   Blood products:
   Total out:
                                                                  3,713 mL
                                                                  1,190 mL
   Urine:
                                                                  3,113 mL
                                                                  1,190 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  1,859 mL
                                                                    457 mL
   Respiratory support
   Ventilator mode: PCV+
   Vt (Spontaneous): 470 (470 - 740) mL
   PC : 24 cmH2O
   PS : 20 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   SpO2: 96%
   ABG: 7.38/49/67/23/2
   Ve: 15.6 L/min
   PaO2 / FiO2: 112
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Trach in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullnesst :
   ), (Breath Sounds: Diminished: )
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli
but not directed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   145 K/uL
   80 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.0 mEq/L
   15 mg/dL
   110 mEq/L
   141 mEq/L
   29.2 %
   11.1 K/uL
        [image002.jpg]
                             [**2120-4-24**]  10:07 PM
                             [**2120-4-25**]  04:05 AM
                             [**2120-4-25**]  04:29 AM
                             [**2120-4-25**]  03:23 PM
                             [**2120-4-25**]  06:00 PM
                             [**2120-4-26**]  04:43 AM
                             [**2120-4-26**]  02:25 PM
                             [**2120-4-26**]  05:37 PM
                             [**2120-4-26**]  09:20 PM
                             [**2120-4-27**]  04:49 AM
   WBC
   13.6
   15.0
   11.1
   Hct
   31.6
   34.0
   28.1
   31.5
   29.2
   Plt
   149
   159
   145
   Cr
   1.0
   1.0
   1.0
   TCO2
   34
   35
   27
   30
   Glucose
   70
   76
   65
   80
   Other labs: PT / PTT / INR:13.7/42.1/1.2, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:57/31, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.6 g/dL, LDH:272 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Imaging: CXR--[**2120-4-27**]
   Patient with increased interstitial and some alveolar edema noted in
   background of fibrosis
   Assessment and Plan
   50 yo male with history metastatic renal cell CA admit with respiratory
   failure and now s/p trach and PEG and prolonged vent weaning.  He has
   been limited by persistent hypoxemia which may be related to underlying
   pulmonary disease in addition to loss of functional lung in the setting
   of prolonged intubation and will need to move to successful PSV wean
   with hemodynamic stability.
   Respiratory Failure-
   This is combination of chronic pulmonary disease and significant
   obstruction and restriction now with significant evidence of worsening
   of the pulmonary edema in the setting of fluid bolus over past 24
   hours.  He had continued need for maximum support.  This morning he has
   significant hypoxemia persisting and needs continued stable support.
   -Increase PEEP to 8 this am
   -Increase sedation to allow more passive ventilatory support
   -Will likely maintain PCV in place
   -Will move to diuresis if we can given hemodynamic instability
   -His leak from the ventilator
   Hypotension-
   He had significant sepsis and with an initial resolution.  At this time
   he has had some intermittent hypotension which is likely due to
   vasodilatory effects of sedating medications and has had some evidence
   of increased volume overload with bolus treatment over past 24 hours.
   -ECG wtihout changes
   -IVF bolus as needed
   -ECHO if persistent
   Sepsis-
   Continue with broad spectrum ABX
   F/U culture results
   Altered Mental Status-
   -Methadone q 4 hours, Fentanyl as needed, Ativan as needed with goal to
   maintain stable sedation
   -Look to wean propofol as tolerated
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-4-27**] 03:48 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2120-4-15**] 11:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2120-04-28 07:52:00 Physician Resident Progress Note
Chief Complaint: 50M h/o metastatic renal CA s/p nephrectomy, IL-2,
   mini-allograft SCT, DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis
   on home 02 presented to OSH with hypoxic respiratory failure, sepsis,
   cardiogenic shock, now improving but with difficulty weaning vent and
   s/p trach/PEG
   24 Hour Events:
 ARTERIAL LINE - START [**2120-4-27**] 08:13 PM
   - replaced a-line
   -kept on 5 PEEP due to concern for increased leak around cuff
   -in PM, 02 sats improved, less agitated.
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2120-4-26**] 08:16 AM
   Levofloxacin - [**2120-4-27**] 09:00 AM
   Acyclovir - [**2120-4-27**] 04:00 PM
   Vancomycin - [**2120-4-27**] 08:08 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-28**] 06:06 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-4-27**] 08:00 AM
   Lorazepam (Ativan) - [**2120-4-27**] 11:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-28**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 73 (60 - 99) bpm
   BP: 100/54(71) {84/40(48) - 106/60(75)} mmHg
   RR: 30 (0 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
    CVP: 10 (8 - 310)mmHg
   Total In:
                                                                  3,124 mL
                                                                    464 mL
   PO:
   TF:
                                                                    750 mL
                                                                     77 mL
   IVF:
                                                                  1,733 mL
                                                                    287 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    530 mL
   Urine:
                                                                  2,900 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    224 mL
                                                                    -66 mL
   Respiratory support
   Ventilator mode: PCV+
   PC : 24 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   SpO2: 91%
   ABG: 7.36/51/105/25/1
   Ve: 10.2 L/min
   PaO2 / FiO2: 175
   Physical Examination
   Gen: Sedated, opens eyes to voice, no purposeful movements
   Heent: pupils equal.  Trached.
   Cor: RRR, nls1s2 no mr
   Pul: CTA anteriorly
 coarse, mechanical breath sounds
   Abd: moderately distended.  Bowel sounds present, PEG in placed,
   dressed, no guarding, no tenderness
   Extreme: Warm, trace pitting edema to mid-thigh
   Labs / Radiology
   166 K/uL
   10.0 g/dL
   82 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.3 mEq/L
   12 mg/dL
   110 mEq/L
   142 mEq/L
   29.9 %
   12.5 K/uL
        [image002.jpg]
                             [**2120-4-25**]  03:23 PM
                             [**2120-4-25**]  06:00 PM
                             [**2120-4-26**]  04:43 AM
                             [**2120-4-26**]  02:25 PM
                             [**2120-4-26**]  05:37 PM
                             [**2120-4-26**]  09:20 PM
                             [**2120-4-27**]  04:49 AM
                             [**2120-4-27**]  12:14 PM
                             [**2120-4-28**]  03:59 AM
                             [**2120-4-28**]  04:26 AM
   WBC
   15.0
   11.1
   12.5
   Hct
   34.0
   28.1
   31.5
   29.2
   29.9
   Plt
   159
   145
   166
   Cr
   1.0
   1.0
   0.9
   TCO2
   27
   30
   28
   30
   Glucose
   76
   65
   80
   82
   Other labs: PT / PTT / INR:13.7/42.1/1.2, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:57/31, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.6 g/dL, LDH:272 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Imaging: CXR [**4-27**]: IMPRESSION:  1. The acute changes noted in both
   lungs favor edema, although aspiration cannot be completely excluded.
   2. Chronic interstitial lung fibrotic disease.
   Microbiology: All micro NGTD
   Assessment and Plan
   50M h/o metastatic renal CA s/p nephrectomy, IL-2, mini-allograft SCT,
   DLI x 2 last in [**12-8**], emphysema/pulmonary fibrosis on home 02
   presented to OSH with hypoxic respiratory failure, sepsis, cardiogenic
   shock, now improving but with difficulty weaning vent and s/p
   trach/PEG.
   # Respiratory failure:  Pneumonia as likely source of resp failure and
   sepsis in patient with poor pulmonary reserve due to emphysema, ?GVHD,
   fibrosis.   Patient is now s/p trach/PEG on [**4-25**]. PEEP decreased to 5
   after trach placement which patient has been tolerating.  He does,
   however, have a trach leak, hard to quantify amount of leak.  IP has
   evaluated and would like to wait until track is more healed prior to
   changing trach.  Has increasing Fi02 requirement from 40% up to 60%
   since yesterday.
   - Continue PEEP of 5 on PCV given concern over cuff leak by RT, plan
   for replacement of cuff by IP after a few days when trach is not so
   new
   - Driving pressures maintained at 24. FiO2 at 60% now with sats in the
   low 90s.  Last gas 7.36/51/105.  Will attempt decrease in FiO2 to 50%
   this morning.
   - Can attempt PS trial later if sedation weaned and patient alert
   enough to tolerate.
   - Treat PNA for planned 14 day course.  See below.  B-glucan,
   galactomannan negative, caspogungin d/c
   # Sedation:  Currently on methadone q4H, and propofol for sedation,
   currently at 35 mcg/kg/min.  Off fent/versed drips, using fentanyl and
   lorazepam boluses for agitation.
   - Goal to wean propofol as tolerated today, triglycerides mildly
   elevated at 182
   - Continue to check triglycerides twice weekly while on propofol. Last
   checked [**4-26**]
   - Will bolus with versed/fentanyl prn agitation in an attempt to wean
   down level of propofol.
   - Continue to check daily ECG for QTc prolongation on methadone.
   - When able, will decrease methadone to q6H then to q8H
   # Shock: Multifactorial, improved.
   ** Sepsis: Likely source pneumonia.  On very broad coverage w/
   vancomycin, levofloxacin, zosyn, bactrim (now only ppx dosing) and
   acyclovir ppx.  All cultures pending or no growth.  WBC stable.
   - D/C'd caspo
   - F/u cultures - cont to culture with spikes.
   - Continue acyclovir and bactrim ppx, vanc/zosyn/levoflox for 14 day
   course, today is day 12.
   **Cardiogenic
   ## Pump: Had improved BPs off dobutamine. On captopril for afterload
   reduction. Dilated hypokinetic RV, likely causative in hypotension.
   Currently on captopril 12.5mg TID decreased yesterday in the setting of
   hypotension requiring a fluid bolus.  Patient has not been receiving
   captopril given BPs in the high 80s and 90s.
   - Will get repeat ECHO now to evaluate pump function as patient had
   been hypertensive, now hypotensive. ?decreased forward flow [**2-3**] poor
   pump function vs. intravascular volume depletion as partially
   responsive to fluids.
   - Continue to monitor BP for now, prn IVFto maintain MAPs >65.
   ## Rhythm: Sinus bradycardia likely secondary to sedatives, largely
   resolved; increases with agitation.  Cont weaning sedation as
   tolerated.  Continue to follow QTc for prolongation given methadone and
   levoflox, has been wnl
   **Endocrine: relative adrenal [**Name2 (NI) 2411**]
   - Prednisone off
   # Metastatic renal CA: Recurrent disease s/p donor lymphocyte
   transplant [**12-8**].
   - BMT to follow
   - Continue acyclovir and bactrim ppx
   # Access: Multilumen has been in place sinc ethe 14^th. Will request
   PICC for now, pull line once PICC in place.  Will also get PIV access
   today.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-4-28**] 02:13 AM 20 mL/hour, holding TF
   for now due  to high residuals
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2120-4-15**] 11:24 PM
   Arterial Line - [**2120-4-27**] 08:13 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2120-04-28 12:03:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2120-4-27**] 08:13 PM
   History obtained from Patient
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2120-4-26**] 08:16 AM
   Acyclovir - [**2120-4-27**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-28**] 06:06 AM
   Vancomycin - [**2120-4-28**] 08:00 AM
   Levofloxacin - [**2120-4-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2120-4-28**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-4-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-28**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 82 (62 - 87) bpm
   BP: 91/54(67) {84/40(48) - 106/60(75)} mmHg
   RR: 25 (15 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
   CVP: 19 (9 - 300)mmHg
   Total In:
                                                                  3,124 mL
                                                                    834 mL
   PO:
   TF:
                                                                    750 mL
                                                                    157 mL
   IVF:
                                                                  1,733 mL
                                                                    577 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    930 mL
   Urine:
                                                                  2,900 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    224 mL
                                                                    -96 mL
   Respiratory support
   Ventilator mode: PCV+
   PC : 24 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   SpO2: 93%
   ABG: 7.36/51/105/25/1
   Ve: 12.4 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Trachesostomy Tube
   Lymphatic: Persistent significant cuff leak
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Bronchial: )
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   166 K/uL
   82 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.3 mEq/L
   12 mg/dL
   110 mEq/L
   142 mEq/L
   29.9 %
   12.5 K/uL
        [image002.jpg]
                             [**2120-4-25**]  03:23 PM
                             [**2120-4-25**]  06:00 PM
                             [**2120-4-26**]  04:43 AM
                             [**2120-4-26**]  02:25 PM
                             [**2120-4-26**]  05:37 PM
                             [**2120-4-26**]  09:20 PM
                             [**2120-4-27**]  04:49 AM
                             [**2120-4-27**]  12:14 PM
                             [**2120-4-28**]  03:59 AM
                             [**2120-4-28**]  04:26 AM
   WBC
   15.0
   11.1
   12.5
   Hct
   34.0
   28.1
   31.5
   29.2
   29.9
   Plt
   159
   145
   166
   Cr
   1.0
   1.0
   0.9
   TCO2
   27
   30
   28
   30
   Glucose
   76
   65
   80
   82
   Other labs: PT / PTT / INR:13.7/42.1/1.2, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:57/31, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:53/22, Differential-Neuts:67.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.6 g/dL, LDH:272 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Fluid analysis / Other labs: 7.36/51/105
   Imaging: [**2120-4-28**]--mild improvement in diffuse infiltrates
   Microbiology: No new cultures to date
   Assessment and Plan
   50 yo male with metastatic renal cell ca and pulmonary fibrosis and now
   with prolonged ventilator weaning secondary to persistent hypercarbic
   compromise.
   1)Respiratory Failure-Patient with multiple challenges most prominently
   pulmonary fibrosis and modest pulmonary edema in addition making
   oxygenation a primary challenge.  In addition the destructive lung
   disease makes progress a challenge.  He will need continued high levels
   of support until oxygenation can be stabilized.
   -PCV to continue
   -Will consider trach change to minimize cuff leak when stable
   -Wean O2 and move to keep SaO2 >90% and move to 0.5 for FIO2
   -Will move to PSV trial when effective Ve requirement is understood.
   2)Pneumonia
continue ABX for 14 day course
   3)Altered Mental Status-
   -Will move to Propofol wean if possible
   -Hope to be able to tolerate wean with better defined ventilator
   support
   -Continue trials of weaning
   4)Sepsis-
   Hemodynamically improved
   Cardiogenic contribution will be managed with efforts at afterload
   reduction if BP tolerates
   Continue with Abx
   Could consider ECHO to eval current function
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2120-4-28**] 02:13 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2120-4-15**] 11:24 PM
Will need to consider D/C and given
   longer term ABX may be appropriate for PICC
   Arterial Line - [**2120-4-27**] 08:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Following pathway
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2120-04-29 09:09:00 Physician Attending Progress Note
Chief Complaint: shock, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Worsened substantially over the last 24 hours -- hypotension --> shock
   --> pressors, much worse hypoxemia with increasing dead space -->
   paralysis and heparinization.  Esophageal balloon placed.  Oral
   vancomycin started (has rash to Flagyl) for empiric rx of C diff.
 BLOOD CULTURED - At [**2120-4-28**] 12:44 PM
 URINE CULTURE - At [**2120-4-28**] 12:44 PM
 PICC LINE - START [**2120-4-28**] 04:30 PM
 MULTI LUMEN - STOP [**2120-4-28**] 07:52 PM
 ARTERIAL LINE - STOP [**2120-4-28**] 07:57 PM
 SPUTUM CULTURE - At [**2120-4-28**] 08:24 PM
 ULTRASOUND - At [**2120-4-28**] 11:16 PM
 EKG - At [**2120-4-29**] 03:00 AM
 ARTERIAL LINE - START [**2120-4-29**] 04:30 AM
 FEVER - 101.4
F - [**2120-4-29**] 03:00 AM
   History obtained from Medical records, ICU team
   Patient unable to provide history: Sedated
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2120-4-27**] 04:00 PM
   Levofloxacin - [**2120-4-28**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-29**] 06:32 AM
   Vancomycin - [**2120-4-29**] 08:00 AM
   Infusions:
   Fentanyl - 225 mcg/hour
   Heparin Sodium - 1,050 units/hour
   Cisatracurium - 0.2 mg/Kg/hour
   Phenylephrine - 4.3 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 25 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2120-4-28**] 05:30 PM
   Heparin Sodium (Prophylaxis) - [**2120-4-28**] 08:25 PM
   Furosemide (Lasix) - [**2120-4-29**] 01:45 AM
   Other medications:
   vanco, bactrim mwf, zosyn, acyclovir 400 q 8, CHG, colace, ASA, folate,
   SQI, methadone, PPI, captopril (held), levoflox 750 oral, reglan,
   versed, fentanyl, neosynephrine, cistra, heparin, vasporessin,
   hydrocort (ordered, pending), levophed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-29**] 08:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.2
C (99
   HR: 67 (67 - 128) bpm
   BP: 124/75(87) {74/45(53) - 124/78(87)} mmHg
   RR: 18 (0 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
   CVP:
   Total In:
                                                                  5,318 mL
                                                                  1,457 mL
   PO:
   TF:
                                                                    164 mL
   IVF:
                                                                  5,054 mL
                                                                  1,457 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    675 mL
   Urine:
                                                                  1,630 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,688 mL
                                                                    782 mL
   Respiratory support
   Ventilator mode: PCV+
   PC : 26 cmH2O
   PS : 10 cmH2O
   RR (Set): 30
   RR (Spontaneous): 38
   PEEP: 10 cmH2O
   FiO2: 100%
   SpO2: 100%
   ABG: 7.05/88/132/26/-8
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, No(t) Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Cool
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   10.7 g/dL
   195 K/uL
   114 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.6 mEq/L
   14 mg/dL
   110 mEq/L
   141 mEq/L
   34.2 %
   22.4 K/uL
        [image002.jpg]
                             [**2120-4-27**]  12:14 PM
                             [**2120-4-28**]  03:59 AM
                             [**2120-4-28**]  04:26 AM
                             [**2120-4-28**]  09:26 PM
                             [**2120-4-29**]  12:22 AM
                             [**2120-4-29**]  03:34 AM
                             [**2120-4-29**]  03:52 AM
                             [**2120-4-29**]  04:29 AM
                             [**2120-4-29**]  05:30 AM
                             [**2120-4-29**]  07:55 AM
   WBC
   12.5
   22.4
   Hct
   29.9
   34.2
   Plt
   166
   195
   Cr
   0.9
   1.3
   TCO2
   28
   30
   29
   29
   31
   31
   29
   26
   Glucose
   82
   114
   Other labs: PT / PTT / INR:13.7/42.1/1.2, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:35/49, Alk Phos / T Bili:178/1.6,
   Amylase / Lipase:50/19, Differential-Neuts:85.4 %, Band:0.0 %,
   Lymph:8.8 %, Mono:4.1 %, Eos:1.4 %, Lactic Acid:5.1 mmol/L, Albumin:2.6
   g/dL, LDH:473 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   50-year-old man with recrudescent severe shock and respiratory failure,
   on a background of renal cell CA .
   Shock
   Etiology here is uncertain.  Sepsis is most likely, but PE
   For sepsis
 cover MRSA and VRE, cover ESBL and other resistant GNR
   (change to meropenem and IV quinolone), and for C diff (oral vanco;
   discuss his Flagyl allergy with his prior providers).  Will discuss
   antifungal coverage with BMT.  Check other cultures. (CMV,
   galactomannan, etc.)  Consult ID for advice on antibiotics.
   Check KUB and upright CXR to exclude free air.  He is too sick for
   travel and for operation.
   Treat empirically for adrenal insufficiency.  Add on cortisol to
   morning labs.
   Check echo.  Check EKG since heart rate is relatively low.
   Follow and replete ionized calcium.
   Heparinize empirically for PE.  Discuss with BMT whether he would be a
   candidate for lytics if we documented PE (his metastatic disease in the
   spine makes it unlikely).
   Place central line after heparin is held for an hour.
   Respiratory failure
   Esophageal-balloon guided settings for PEEP and driving pressure.
   Has marked respiratory acidosis that seems to be mostly related to high
   dead-space fraction.
   Will try to increase respiratory rate and watch for autoPEEP.
   Bradycardia
   Appears to be a junctional rhythm.  Will replete all lytes including
   calcium, etc.
   Try to swap to Levophed for
   Acute renal failure
   Secondary to hemodynamics.  Follow for now.
   Acidosis
   Mostly related to respiratory acidosis, although his bicarb has fallen
   over the past days as well.
   Since he has a lactic (and respiratory) acidosis, will hold off on
   bicarbonate for now.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Will place CVL today
   20 Gauge - [**2120-4-28**] 02:03 PM
   18 Gauge - [**2120-4-28**] 02:03 PM
   PICC Line - [**2120-4-28**] 04:30 PM
   Arterial Line - [**2120-4-29**] 04:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments: Wakeup and RSBI are contraindicated.
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Team has called wife, who is coming in this morning, and has talked to
   BMT.
   Code status: Full code
   Disposition :ICU
   Total time spent:  65 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE STAFF ADDENDUM
   7pm addendum
   Major events today:
   (1)     pressor requirement improved
   (2)     central line placed without incident.  CVP was only 7
   (3)     Respiratory acidosis improved more than expected based on
   ventilator manipulations
   (4)     Family meeting at 12:30
   (5)     Echo shows no tamponade; RV is perhaps larger than prior echo
   (6)     LENIs (-)
   (7)     Formal jugular doppler confirmed our findings of RIJ DVT
   (8)     Episode of coffee grounds
   Overall, although he remains tremendously ill he has improved
   substantially compared with earlier today.  This (along with the IJ
   DVT) suggests that the primary mechanism here may have been a PE in a
   patient with an already compromised RV and pulmonary status
 and that
   he may now be having some auto-lysis of the clot.  His coffee grounds
   (in addition to his malignancy) means that TPA is contraindicated at
   present.  We will do our best to continue heparin and support with
   transfusions as needed.
   50 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2120-4-29**] 19:51 ------

2120-04-29 15:23:00 Physician Resident Progress Note
Chief Complaint: 50 y/o M w. metastatic renal cell cancer s/p
   nephrectomy, IL-2, mini-SCT, DLI 2x in [**12-8**], emphysema/pulmonary
   fibrosis on home O2 presented to OSH with hypoxic respiratory failure,
   sepsis, cardiogenic shock now with difficulty weaning vent and s/p
   trach/peg
   24 Hour Events:
 BLOOD CULTURED - At [**2120-4-28**] 12:44 PM
 URINE CULTURE - At [**2120-4-28**] 12:44 PM
 PICC LINE - START [**2120-4-28**] 04:30 PM
 MULTI LUMEN - STOP [**2120-4-28**] 07:52 PM
 ARTERIAL LINE - STOP [**2120-4-28**] 07:57 PM
 SPUTUM CULTURE - At [**2120-4-28**] 08:24 PM
 ULTRASOUND - At [**2120-4-28**] 11:16 PM
 EKG - At [**2120-4-29**] 03:00 AM
 ARTERIAL LINE - START [**2120-4-29**] 04:30 AM
 FEVER - 101.4
F - [**2120-4-29**] 03:00 AM
   - Overnight, patient with increasing hypoxia and respiratory distress.
   Increasing PCO2 c/w dead space fraction.  Patient improved transiently
   with diuresis and briefly on lasix gtt overnight.  Later started on
   heparin gtt for ? PE in setting of hypoxia/hypotension.  Overnight
   patient had to be resedated and reparalyzed because was fighting the
   vent.  Also with increasing LFT's so RUQ USD obtained for ?
   cholecystitis but w/o e/o CBD on imaging.  This morning is on three
   pressors to maintain MAP > 60.
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2120-4-27**] 04:00 PM
   Levofloxacin - [**2120-4-28**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-29**] 06:32 AM
   Vancomycin - [**2120-4-29**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Cisatracurium - 0.2 mg/Kg/hour
   Midazolam (Versed) - 25 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2120-4-28**] 05:30 PM
   Heparin Sodium (Prophylaxis) - [**2120-4-28**] 08:25 PM
   Furosemide (Lasix) - [**2120-4-29**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-29**] 03:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.2
C (99
   HR: 80 (64 - 128) bpm
   BP: 104/64(80) {66/41(52) - 175/87(100)} mmHg
   RR: 42 (0 - 42) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
    CVP: 3 (3 - 7)mmHg
   Total In:
                                                                  5,318 mL
                                                                  2,490 mL
   PO:
   TF:
                                                                    164 mL
   IVF:
                                                                  5,054 mL
                                                                  2,490 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                  2,095 mL
   Urine:
                                                                  1,630 mL
                                                                  1,795 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  3,688 mL
                                                                    395 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 360 (360 - 360) mL
   PC : 24 cmH2O
   PS : 10 cmH2O
   RR (Set): 30
   PEEP: 9 cmH2O
   FiO2: 100%
   PIP: 37 cmH2O
   Plateau: 33 cmH2O
   Compliance: 18 cmH2O/mL
   SpO2: 99%
   ABG: 7.25/60/201/26/-1
   Ve: 15.7 L/min
   PaO2 / FiO2: 201
   Physical Examination
   General Appearance: Well nourished, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   coarse), mechanical breath sounds
   Extremities: warm, with trace b/l LE edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   195 K/uL
   10.7 g/dL
   114 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.6 mEq/L
   14 mg/dL
   110 mEq/L
   141 mEq/L
   34.3 %
   22.4 K/uL
        [image002.jpg]
                             [**2120-4-28**]  04:26 AM
                             [**2120-4-28**]  09:26 PM
                             [**2120-4-29**]  12:22 AM
                             [**2120-4-29**]  03:34 AM
                             [**2120-4-29**]  03:52 AM
                             [**2120-4-29**]  04:29 AM
                             [**2120-4-29**]  05:30 AM
                             [**2120-4-29**]  07:55 AM
                             [**2120-4-29**]  10:02 AM
                             [**2120-4-29**]  03:11 PM
   WBC
   22.4
   Hct
   34.2
   34.3
   Plt
   195
   Cr
   1.3
   TCO2
   30
   29
   29
   31
   31
   29
   26
   28
   Glucose
   114
   Other labs: PT / PTT / INR:13.7/104.5/1.2, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:35/49, Alk Phos / T Bili:178/1.6,
   Amylase / Lipase:50/19, Differential-Neuts:85.4 %, Band:0.0 %,
   Lymph:8.8 %, Mono:4.1 %, Eos:1.4 %, Lactic Acid:2.8 mmol/L, Albumin:2.6
   g/dL, LDH:473 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
   50 y/o M w. metastatic renal cell cancer s/p nephrectomy, IL-2,
   mini-SCT, DLI 2x in [**12-8**], emphysema/pulmonary fibrosis on home O2
   presented to OSH with hypoxic respiratory failure, sepsis, cardiogenic
   shock now with difficulty weaning vent and s/p trach/peg
   .
   #Hypotension: At this time impression is most consistent with septic
   shock given fevers, elevated lactate, leukocytosis.  [**Month (only) 60**] also be
   cardiogenic/obstructive shock from a PE or from pericardial tamponade.
   Has RV dysfunction at baseline.  At this time will continue
   -          Possible Sepsis: Given fevers on broad antibiotics will
   broaden to cover ESBL-GNR
s and VRE.  Change vancomycin to linezolid
   given need to cover pulmonary source in this hypoxic patient.  Will
   also change zosyn to meropenem for above.  Will hold on fungal coverage
   given not neutropenic and fungal studies have been negative.
   Tobramycin for resistant GNR
s.  Consider broadening PRN.
   -          Rising WBC count also concerning for C. Diff infection.
   Started on PO vanco overnight.  Change to IV flagyl this AM and PR
   vanco given high residuals and lack of absorption.
   -          ID consult today -> ? IV Ig.
   -          Cardiogenic Shock: Unclear what component may be related to
   obstructive shock from PE, EKG this AM with junctional rhythm with no
   clear P-waves.   Do not believe this is ischemic, but will obtain TTE
   today for ? effusion/tamponade/thrombus.
   -          Hypovolemic Shock:  Less likely. With bloody NG lavage today
   after starting heparin.  Q6h HCT and stop heparin gtt only for
   significant GI bleed.
   -          Adrenal: Has adrenal involvement from renal cell carcinoma.
   Will check AM cortisol today.  Given hydrocortisone x1.
   -          Continue pressors with vasopressin,and uptitrate levophed
   and down titrate neosynephrine.  Check ionized calcium this AM and
   ensure replete.
   -          Continue acyclovir and bactrim PPx.
   .
   # Respiratory failure:  Pneumonia as likely source of resp failure and
   sepsis in patient with poor pulmonary reserve due to emphysema, ?GVHD,
   fibrosis.   However, increasing CO2 requirement concerning for PE and
   will continue heparin gtt today given clinical improvement since
   starting.  No trach leak on exam this AM as per respiratory.  Now on
   100% FIO2.  Patient is now s/p trach/PEG on [**4-25**].   CXR this AM with
   increasing opacities c/w pneumonia/edema.
   - continue heparin gtt at this time.
   - will not diurese given hypotension
   - Continue on current vent setting for now.
   - Driving pressures maintained at 24. FiO2 at 100% now with sats in the
   low 90s.  Last gas7.05/88/132/26/-8.
   - Treat PNA for planned 14 day course.  See below.  B-glucan,
   galactomannan negative, caspogungin d/c
   # Sedation:  continue fentanyl, cisatracurium, midazolam.
   - Goal to wean propofol as tolerated today, triglycerides mildly
   elevated at 182
   - Continue to check triglycerides twice weekly while on propofol. Last
   checked [**4-26**]
   - Will bolus with versed/fentanyl prn agitation in an attempt to wean
   down level of propofol.
   - Continue to check daily ECG for QTc prolongation on methadone.
   - When able, will decrease methadone to q6H then to q8H
   .
   #GI Bleeding: [**Hospital1 **] IV PPI while on heparin gtt given black on lavage.
   Will follow and hold heparin for GI bleed.  Q6H hematocrit for now.
   -          continue to follow.
   .
   # Pump: As above.  TTE today, hold captopril.
   .
   # Rhythm: Sinus at times with junction rhythm on occasion.  Continue to
   monitor.  Telemetry/TTE.
   # Metastatic renal CA: Recurrent disease s/p donor lymphocyte
   transplant [**12-8**].
   - BMT to follow -> to give input on code status and discussions with
   family regarding severity of illness at this time.
   - Continue acyclovir and bactrim ppx
   # Access: Central line today, with upper extremity ultrasound
   guidance.  PIV.  A-Line.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-4-28**] 02:03 PM
   18 Gauge - [**2120-4-28**] 02:03 PM
   PICC Line - [**2120-4-28**] 04:30 PM
   Arterial Line - [**2120-4-29**] 04:30 AM
   Multi Lumen - [**2120-4-29**] 12:05 PM
   Prophylaxis:
   DVT:  Heparin GTT
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-04-30 07:13:00 Physician Resident Progress Note
Chief Complaint: 50 y/o M w/ metastatic renal cell carcinoma s/p
   nephrectomy, IL-2, mini-SCT, DLI x2 in [**12-8**], pulmonary fibrosis on
   home O2 a/w hypoxic respiratory failure, sepsis, cardiogenic shock now
   with difficulty weaning the vent s/p trach and peg.
   24 Hour Events:
 EKG - At [**2120-4-29**] 09:00 AM -> junctional rhythm, in and out of
   sinus overnight.
 TRANSTHORACIC ECHO - At [**2120-4-29**] 10:17 AM -> minimal increase in RV
   pressure overload, pleural effusion, no other new findings
 MULTI LUMEN - START [**2120-4-29**] 12:05 PM -> CXR shows in good
   position.
 ULTRASOUND - At [**2120-4-29**] 02:29 PM -> Clot in R-IJ, no LE DVT.
   Restarted heparing s/p mini-BAL.
   Hypotension/Pressors: Yesterday bolused with IVF's with goal CVP of
   [**10-13**] mm Hg.  Weaned off neo and later weaned of levophed.  This AM off
   vasopressin.  Repleted ionized calcium yeterday.
   .
   Respiratory: Improved on A/C during the day yeterday but overnight had
   difficulty maintaining adequate minute ventilation.  ? of inadequate
   sedation/paralysis vs. some mild pulm edema after hydration.  Changed
   back to pressure control transiently overnight.  CVP at that time
   [**12-15**].  Increased cisatracurium and patient improved with repeat ABG of
   7.21/70/104/30 on A/C.  Now on A/C with TV 340, RR 42, FiO2 70%, 6
   PEEP.  Last transpulmonary pressure of 30mmHg.
   .
   ID: Started meropenem/linezolid/tobramycin and caspofungin as per ID
   team yesterday.  Also given one dose IV Ig for severe sepsis in
   immunocompromised host.
   .
   Cardiac: Had TTE yesterday that showed mild increase in RV pressure
   overload and new pleural effusion.
   .
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2120-4-27**] 04:00 PM
   Levofloxacin - [**2120-4-28**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-29**] 06:32 AM
   Vancomycin - [**2120-4-29**] 08:00 AM
   Ciprofloxacin - [**2120-4-29**] 11:00 AM
   Metronidazole - [**2120-4-29**] 04:00 PM
   Meropenem - [**2120-4-30**] 05:00 AM
   Linezolid - [**2120-4-30**] 05:14 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 25 mg/hour
   Cisatracurium - 0.25 mg/Kg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-4-29**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-30**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.4
C (95.7
   HR: 64 (64 - 104) bpm
   BP: 91/65(72) {84/58(64) - 124/75(87)} mmHg
   RR: 42 (0 - 42) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
    CVP: 12 mmHg
   Total In:
                                                                  9,039 mL
                                                                  3,057 mL
   PO:
   TF:
   IVF:
                                                                  9,039 mL
                                                                  3,057 mL
   Blood products:
   Total out:
                                                                  3,595 mL
                                                                    450 mL
   Urine:
                                                                  3,295 mL
                                                                    450 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  5,444 mL
                                                                  2,607 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 340 (340 - 360) mL
   PC : 38 cmH2O
   PS : 32 cmH2O
   PEEP: 6 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 38 cmH2O
   Plateau: 30 cmH2O
   Compliance: 17.9 cmH2O/mL
   SpO2: 96%
   ABG: 7.21/70/104/26/-1
   Ve: 15 L/min
   PaO2 / FiO2: 149
   Physical Examination
   General Appearance: Well nourished, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: 2+ radial pulses b/l, 2+ DP pulses b/l, no c/c,
   trace to 1+ b/l LE edema upper and lower.
   Respiratory / Chest: (Expansion: Symmetric), mechanical breath sounds,
   otherwise clear.
   Skin:  ecchymoses over abdomen,
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   88 K/uL
   8.1 g/dL
   253 mg/dL
   1.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   28 mg/dL
   108 mEq/L
   136 mEq/L
   25.4 %
   11.3 K/uL
        [image002.jpg]
                             [**2120-4-29**]  03:11 PM
                             [**2120-4-29**]  05:58 PM
                             [**2120-4-29**]  08:48 PM
                             [**2120-4-29**]  09:33 PM
                             [**2120-4-30**]  01:17 AM
                             [**2120-4-30**]  01:43 AM
                             [**2120-4-30**]  01:59 AM
                             [**2120-4-30**]  03:07 AM
                             [**2120-4-30**]  04:27 AM
                             [**2120-4-30**]  04:44 AM
   WBC
   11.3
   Hct
   30.4
   27.6
   25.4
   Plt
   88
   Cr
   1.9
   TCO2
   28
   29
   30
   28
   30
   29
   30
   Glucose
   253
   Other labs: PT / PTT / INR:13.7/40.1/1.2, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:2542/3606, Alk Phos / T Bili:146/0.9,
   Amylase / Lipase:50/19, Differential-Neuts:85.4 %, Band:0.0 %,
   Lymph:8.8 %, Mono:4.1 %, Eos:1.4 %, Lactic Acid:1.9 mmol/L, Albumin:2.7
   g/dL, LDH:1697 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
   50 y/o M w/ metastatic renal cell carcinoma s/p nephrectomy, IL-2,
   mini-SCT, DLI x2 in [**12-8**], pulmonary fibrosis on home O2 a/w hypoxic
   respiratory failure, sepsis, cardiogenic shock now with difficulty
   weaning the vent s/p trach and peg.
   .
   #Hypotension: At this time feel sepsis with contribution of DVT/PE is
   most likely cause for hypotension.  Patient improved overnight with
   decreased pressor requirement after fluid boluses and starting heparin
   gtt.  Continue IVF
s today with goal CVP 10-12 as tolerated by
   pulmonary status.
   -          Sepsis:  No clear source, ? GI/ C.Diff, afebrile last 24
   hours suggesting response to antibiotics.  Will continue
   meropenem/linezolid/tobramycin/caspofungin/Flagyl and PO Vancomycin in
   addition to bactrim/acyclovir PPx.  IV Ig given yesterday for severe
   sepsis in immunocompromised host.  Will continue broad spectrum
   antibiotics today.
   -          Treating empirically for C. Diff infection at this time.
   Restarted PO vancomycin as patient not retaining PR vancomycin.  C.
   Diff negative x1, resend stool cultures.  Consider d/c of PO vanco if
   stool toxin
s negative.
   -          Appreciate ID Rec
   -          Cardiogenic Shock: Likely some component may be related to
   obstructive shock from PE, patient with mildly increase in RV pressure
   overload on last Echo so not clearly
   -          Hypovolemic Shock:  Less likely. With bloody NG lavage today
   after starting heparin.  Q6h HCT and stop heparin gtt only for
   significant GI bleed.
   -          Adrenal: Normal cortisol, and hypotension improving so not
   adding steroids at this point.  Consider if patient decompensates or
   cannot be weaned of pressors.
   -          Follow calcium and replete.
   -          Continue acyclovir and bactrim PPx.
   .
   # Respiratory failure:  Pneumonia with small PE likely source of resp
   failure and in patient with poor pulmonary reserve due to emphysema,
   ?GVHD, fibrosis.   However, increasing CO2 requirement concerning for
   PE and with RIJ thrombosis by ultrasound.  Will continue heparin gtt
   today.  Adjust vent settings PRN with goal pH 7.2 or greater, and
   transpulmonary pressures of 25 or less.
   - continue heparin gtt at this time.
   - Maintain CVP 10-12 and would not diurese unless increasingly hypoxic
   and CVP elevated.
   - Treat PNA for planned 14 day course.  See below.  B-glucan,
   galactomannan negative, caspogungin d/c
   .
   # Sedation:  continue fentanyl, cisatracurium, midazolam.
   - Goal to wean propofol as tolerated today, triglycerides mildly
   elevated at 182
   - Continue to check triglycerides twice weekly while on propofol. Last
   checked [**4-26**]
   - Will bolus with versed/fentanyl prn agitation in an attempt to wean
   down level of propofol.
   - Continue to check daily ECG for QTc prolongation on methadone.
   - When able, will decrease methadone to q6H then to q8H
   .
   #Acute Liver Injury: Likely [**2-3**] to hypotension.  Trend LFT
s.  Review
   current medications for possible heaptotoxins.
   .
   # Acute Renal Failure: Likely [**2-3**] to ATN.  Renal dose meds. Urine
   lytes, Ua.
   -          Continue IVF
s, making good UOP.
   .
   # Anemia: Likely oozing in setting of heparin gtt.  T. Bili normal this
   AM arguing against hemolysis but with elevated LDH will check
   haptoglobin.  Will check q6H Hct today, and transfuse PRN for Hct < 21,
   or give blood if need to give IV fluids today.
   .
   #Thrombocytopenia: Low likelihood of HIT. [**Month (only) 60**] be [**2-3**] infection,
   medication effect, DIC.  Will send smear, DIC labs today.  Transfuse
   PRN for platelets < 50 given concern for active bleeding.  Also d/c
   heparin gtt if platelets <50.
   .
   #GI Bleeding: [**Hospital1 **] IV PPI while on heparin gtt given black on lavage.
   Will follow and hold heparin for acute GI bleed.  Q6H hematocrit for
   now.
   -          continue to follow, transfuse PRN
   #DVT: R-IJ Thrombosis, continue heparin gtt.
   # Pump: As above.  TTE w/ blown RV.
   # Rhythm: Sinus at times with junction rhythm on occasion.  Continue to
   monitor.  Telemetry/TTE.
   # Metastatic renal CA: Recurrent disease s/p donor lymphocyte
   transplant [**12-8**].
   - BMT to follow -> to give input on code status and discussions with
   family regarding severity of illness at this time.
   - Continue acyclovir and bactrim ppx
   # Access: Central line,  PIV.  A-Line.
   #CODE: DNR (Okay to intubate)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-4-28**] 02:03 PM
   18 Gauge - [**2120-4-28**] 02:03 PM
   PICC Line - [**2120-4-28**] 04:30 PM
   Arterial Line - [**2120-4-29**] 04:30 AM
   Multi Lumen - [**2120-4-29**] 12:05 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: Protonix [**Hospital1 **]
   VAP:  chlorhexedine
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition:

2120-04-30 10:11:00 Physician Attending Progress Note
Chief Complaint: shock, respiratory failure
   HPI:
   24 Hour Events:
 EKG - At [**2120-4-29**] 09:00 AM
 TRANSTHORACIC ECHO - At [**2120-4-29**] 10:17 AM
 MULTI LUMEN - START [**2120-4-29**] 12:05 PM
 ULTRASOUND - At [**2120-4-29**] 02:29 PM
   Eventful day yesterday; see my evening addendum:
   1) pressor requirement improved
   (2) central line placed without incident. CVP was only 7
   (3) Respiratory acidosis improved more than expected based on
   ventilator manipulations
   (4) Family meeting at 12:30
   (5) Echo shows no tamponade; RV is perhaps larger than prior echo
   (6) LENIs (-)
   (7) Formal jugular doppler confirmed our findings of RIJ DVT
   (8) Episode of coffee grounds
   Overnight, had some additional progress in terms of hemodynamics.
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2120-4-27**] 04:00 PM
   Levofloxacin - [**2120-4-28**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-29**] 06:32 AM
   Vancomycin - [**2120-4-29**] 08:00 AM
   Ciprofloxacin - [**2120-4-29**] 11:00 AM
   Metronidazole - [**2120-4-29**] 04:00 PM
   Linezolid - [**2120-4-30**] 05:14 AM
   Meropenem - [**2120-4-30**] 08:13 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Cisatracurium - 0.1 mg/Kg/hour
   Heparin Sodium - 1,200 units/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-4-29**] 08:00 PM
   Other medications:
   colace, SQI, ASA, acyclovir, folate, Bactrim MWF, nystatin, methadone,
   Reglan, phenylephrine, cisatra, vanco oral, levophed, midaz, fentanyl,
   meropenem, linezolid, PPI, caspofungin, flagyl, heparin IV, IVIG, CHG,
   PPI IV q12
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-30**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 34
C (93.2
   HR: 73 (64 - 104) bpm
   BP: 120/60(78) {79/41(59) - 175/87(183)} mmHg
   RR: 39 (0 - 42) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
   CVP: 12 mmHg
   Total In:
                                                                  9,039 mL
                                                                  3,530 mL
   PO:
   TF:
   IVF:
                                                                  9,039 mL
                                                                  3,530 mL
   Blood products:
   Total out:
                                                                  3,595 mL
                                                                    570 mL
   Urine:
                                                                  3,295 mL
                                                                    570 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  5,444 mL
                                                                  2,960 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 340 (340 - 360) mL
   PC : 38 cmH2O
   PS : 32 cmH2O
   PEEP: 6 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 38 cmH2O
   Plateau: 30 cmH2O
   Compliance: 17.9 cmH2O/mL
   SpO2: 90%
   ABG: 7.21/70/104/26/-1
   Ve: 15 L/min
   PaO2 / FiO2: 149
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Paralyzed, Tone: Decreased
   Labs / Radiology
   8.1 g/dL
   88 K/uL
   253 mg/dL
   1.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   28 mg/dL
   108 mEq/L
   136 mEq/L
   25.4 %
   11.3 K/uL
        [image002.jpg]
                             [**2120-4-29**]  03:11 PM
                             [**2120-4-29**]  05:58 PM
                             [**2120-4-29**]  08:48 PM
                             [**2120-4-29**]  09:33 PM
                             [**2120-4-30**]  01:17 AM
                             [**2120-4-30**]  01:43 AM
                             [**2120-4-30**]  01:59 AM
                             [**2120-4-30**]  03:07 AM
                             [**2120-4-30**]  04:27 AM
                             [**2120-4-30**]  04:44 AM
   WBC
   11.3
   Hct
   30.4
   27.6
   25.4
   Plt
   88
   Cr
   1.9
   TCO2
   28
   29
   30
   28
   30
   29
   30
   Glucose
   253
   Other labs: PT / PTT / INR:19.2/77.9/1.8, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:2542/3606, Alk Phos / T Bili:146/0.9,
   Amylase / Lipase:50/19, Differential-Neuts:85.4 %, Band:0.0 %,
   Lymph:8.8 %, Mono:4.1 %, Eos:1.4 %, Lactic Acid:1.9 mmol/L, Albumin:2.7
   g/dL, LDH:1697 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Microbiology: No new growth
   Assessment and Plan
   50-year-old man with metastatic renal cell cancer s/p BMT now with
   multiple organ failure of uncertain etiology.
   recrudescent severe shock
          Main differential here is pulmonary embolism (with
   pre-existing severe pulmonary parenchymal and vascular disease and RV
   dysfunction) and sepsis.
          Continue ABX as directed by ID
          Heparinize
          Keep CVP >12 (higher, if his oxygenation and ventilation
   will tolerate).  Vasopressor support as needed.
          Transfuse today given ongoing bleeding, anemia, and relative
   hypovolemia
   recrudescent severe respiratory failure with a very high dead space
   fraction
          Heparinze for suspected PE (+ RIJ DVT)
          Esophageal-pressure-targeted ventilation.  Keep
   transpulmonary pressure as low as possible while keeping pH > 7.20.  If
   TPP goes up and acidemic, would consider bicarbonate
   acute hepatitis (likely ischemic/shock liver)
          Review meds with ID and pharmacy to avoid hepatotoxicity
          Expect bilirubin to come up in next day or so.
   GI bleed
   IV PPI twice a day
   Will try to keep heparinized for now, given high risk of death if RIJ
   clot embolized
   acute renal failure (likely ischemic, althoug postrenal is not fully
   excluded)
   acidosis
   thrombocytopenia
   HIT seems unlikely given ongoing prior exposure
   TTP seems unlikely given timing
   Medications (ABX, ??IVIG) certainly possible
   Follow platelets again today.  If continues to fall, hold heparin.
   Will discuss with heme/onc and ID today
   Shock
   Etiology here is uncertain. Sepsis is most likely, but PE
   For sepsis
 cover MRSA and VRE, cover ESBL and other resistant GNR
   (change to meropenem and IV quinolone), and for C diff (oral vanco;
   discuss his Flagyl allergy with his prior providers). Will discuss
   antifungal coverage with BMT. Check other cultures. (CMV,
   galactomannan, etc.) Consult ID for advice on antibiotics.
   Check KUB and upright CXR to exclude free air. He is too sick for
   travel and for operation.
   Treat empirically for adrenal insufficiency. Add on cortisol to morning
   labs.
   Check echo. Check EKG since heart rate is relatively low.
   Follow and replete ionized calcium.
   Heparinize empirically for PE. Discuss with BMT whether he would be a
   candidate for lytics if we documented PE (his metastatic disease in the
   spine makes it unlikely).
   Place central line after heparin is held for an hour.
   Respiratory failure
   Esophageal-balloon guided settings for PEEP and driving pressure.
   Has marked respiratory acidosis that seems to be mostly related to high
   dead-space fraction.
   Will try to increase respiratory rate and watch for autoPEEP.
   Bradycardia
   Appears to be a junctional rhythm. Will replete all lytes including
   calcium, etc.
   Try to swap to Levophed for
   Acute renal failure
   Secondary to hemodynamics. Follow for now.
   Acidosis
   Mostly related to respiratory acidosis, although his bicarb has fallen
   over the past days as well.
   Since he has a lactic (and respiratory) acidosis, will hold off on
   bicarbonate for now.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2120-4-28**] 02:03 PM
   18 Gauge - [**2120-4-28**] 02:03 PM
   PICC Line - [**2120-4-28**] 04:30 PM
   Arterial Line - [**2120-4-29**] 04:30 AM
   Multi Lumen - [**2120-4-29**] 12:05 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2120-05-01 07:30:00 Physician Resident Progress Note
Chief Complaint: 50 y/o M w/ metastatic renal cell Ca involving the
   adrenals s/p nephrectomy, IL-2, mini-SCT, DLIx2 in [**12-8**], pulmonary
   fibrosis on home O2 now admitted with hypoxic respiratory failure,
   sepsis, no trach/peg and w/ difficulty ventilating last 24 hours due to
   increasing acidemia and increasing transpulmonary pressures.
   24 Hour Events:
 URINE CULTURE - At [**2120-4-30**] 10:56 AM
   -Became progressively more acidotic and hypercarbic despite increases
   in tidal volume.  The family was notified that the patient was likely
   dying, and that further options to treat respiratory failure were
   limited.  They are currently at the bedside deciding how to proceed in
   terms of weaning the paralytic and making the patient comfortable.
   -Urine lytes wnl, renal ultrasound done, preliminary read is wnl
   -Methadone discontinued
   -Acyclovir and meropenam switched to q12h dosing for renal
   insufficiency
   -ID recommedations to discontinue C. diff coverage (IV flagyl and po
   vanco), and to hold tobramycin unless sputum cultures grow out GNR's
   -Had a transient episode of ventricular bigeminy in the setting of
   acidosis, empirically given magnesium.  Lytes otherwise unremarkable.
   .
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2120-4-28**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-29**] 06:32 AM
   Vancomycin - [**2120-4-29**] 08:00 AM
   Ciprofloxacin - [**2120-4-29**] 11:00 AM
   Metronidazole - [**2120-4-30**] 04:20 PM
   Caspofungin - [**2120-4-30**] 07:57 PM
   Linezolid - [**2120-5-1**] 03:58 AM
   Meropenem - [**2120-5-1**] 04:06 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-5-1**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 113 (69 - 130) bpm
   BP: 75/48(58) {75/48(58) - 130/68(89)} mmHg
   RR: 40 (38 - 44) insp/min
   SpO2: 78%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
    CVP: 16 (11 - 21)mmHg
   Total In:
                                                                  6,543 mL
                                                                  1,139 mL
   PO:
   TF:
   IVF:
                                                                  5,793 mL
                                                                    940 mL
   Blood products:
                                                                    750 mL
                                                                    199 mL
   Total out:
                                                                  2,055 mL
                                                                    150 mL
   Urine:
                                                                  2,055 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,488 mL
                                                                    989 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (340 - 400) mL
   PC : 38 cmH2O
   RR (Set): 40
   PEEP: 6 cmH2O
   FiO2: 100%
   PIP: 46 cmH2O
   Plateau: 37 cmH2O
   Compliance: 14.3 cmH2O/mL
   SpO2: 78%
   ABG: 7.04/95.[**Numeric Identifier 96**]/52/24/-8
   Ve: 16 L/min
   PaO2 / FiO2: 52
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   lower lung zones, Wheezes : expiratory wheeze at apices ?mechanical)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   117 K/uL
   12.0 g/dL
   158 mg/dL
   2.0 mg/dL
   24 mEq/L
   5.1 mEq/L
   35 mg/dL
   104 mEq/L
   133 mEq/L
   37.0 %
   13.4 K/uL
        [image002.jpg]
                             [**2120-4-30**]  04:44 AM
                             [**2120-4-30**]  11:01 AM
                             [**2120-4-30**]  05:44 PM
                             [**2120-4-30**]  07:36 PM
                             [**2120-4-30**]  09:00 PM
                             [**2120-4-30**]  09:36 PM
                             [**2120-4-30**]  10:37 PM
                             [**2120-4-30**]  11:48 PM
                             [**2120-5-1**]  03:24 AM
                             [**2120-5-1**]  03:40 AM
   WBC
   12.0
   13.4
   Hct
   36.4
   37.0
   Plt
   60
   117
   Cr
   1.8
   2.0
   TCO2
   30
   28
   27
   29
   29
   26
   28
   28
   Glucose
   116
   158
   Other labs: PT / PTT / INR:17.0/37.6/1.5, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:2554/2595, Alk Phos / T Bili:188/1.5,
   Amylase / Lipase:50/19, Differential-Neuts:84.7 %, Band:2.0 %,
   Lymph:11.2 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:688 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:1159 IU/L, Ca++:7.6 mg/dL,
   Mg++:3.3 mg/dL, PO4:5.8 mg/dL
   Imaging: CXR: In comparison with the study of [**4-29**], there is little
   overall
   change. There is persistent diffuse prominence of interstitial markings
   consistent with the clinical diagnosis of severe interstitial fibrosis.
   No
   definite acute focal infiltrate is appreciated. Tubes remain in place.
   Renal USD:
   IMPRESSION:
   1. Normal examination of the right kidney. In particular, no evidence
   for
   renal vein thrombosis.
   2. Status post left nephrectomy.
   3. Small amount of ascites in the pelvis.
   Microbiology: C. Diff negative x1
   Mini-BAL: NGTD
   Blood Culture: NGTD
   Urine: NGTD
   Assessment and Plan
 SHOCK, SEPTIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-4-28**] 02:03 PM
   18 Gauge - [**2120-4-28**] 02:03 PM
   PICC Line - [**2120-4-28**] 04:30 PM
   Arterial Line - [**2120-4-29**] 04:30 AM
   Multi Lumen - [**2120-4-29**] 12:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-05-01 08:45:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   24 hour events
   Significant decompensation oevrnight with profound resp acidosis,
   family meeting with Dr [**Last Name (STitle) 33**] with plan not to escalate care and
   consider transition to CMO as family comes in
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-29**] 06:32 AM
   Vancomycin - [**2120-4-29**] 08:00 AM
   Ciprofloxacin - [**2120-4-29**] 11:00 AM
   Metronidazole - [**2120-4-30**] 04:20 PM
   Caspofungin - [**2120-4-30**] 07:57 PM
   Linezolid - [**2120-5-1**] 03:58 AM
   Meropenem - [**2120-5-1**] 04:06 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 25 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Dyspnea
   Gastrointestinal: melena
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2120-5-1**] 08:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 105 (69 - 130) bpm
   BP: 68/44(54) {68/44(54) - 130/68(89)} mmHg
   RR: 40 (38 - 44) insp/min
   SpO2: 79%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.3 kg (admission): 76.3 kg
   Height: 68 Inch
   CVP: 15 (11 - 21)mmHg
   Total In:
                                                                  6,543 mL
                                                                  1,470 mL
   PO:
   TF:
   IVF:
                                                                  5,793 mL
                                                                  1,271 mL
   Blood products:
                                                                    750 mL
                                                                    199 mL
   Total out:
                                                                  2,055 mL
                                                                    250 mL
   Urine:
                                                                  2,055 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,488 mL
                                                                  1,220 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   Vt (Set): 400 (340 - 400) mL
   PC : 38 cmH2O
   RR (Set): 40
   PEEP: 6 cmH2O
   FiO2: 100%
   PIP: 40 cmH2O
   Plateau: 37 cmH2O
   Compliance: 14.3 cmH2O/mL
   SpO2: 79%
   ABG: 7.04/95.[**Numeric Identifier 96**]/52/24/-8
   Ve: 16.6 L/min
   PaO2 / FiO2: 52
   Physical Examination
   Lying in bed, sedated
   RR
   Diminished BS
   Labs / Radiology
   12.0 g/dL
   117 K/uL
   158 mg/dL
   2.0 mg/dL
   24 mEq/L
   5.1 mEq/L
   35 mg/dL
   104 mEq/L
   133 mEq/L
   37.0 %
   13.4 K/uL
        [image002.jpg]
                             [**2120-4-30**]  04:44 AM
                             [**2120-4-30**]  11:01 AM
                             [**2120-4-30**]  05:44 PM
                             [**2120-4-30**]  07:36 PM
                             [**2120-4-30**]  09:00 PM
                             [**2120-4-30**]  09:36 PM
                             [**2120-4-30**]  10:37 PM
                             [**2120-4-30**]  11:48 PM
                             [**2120-5-1**]  03:24 AM
                             [**2120-5-1**]  03:40 AM
   WBC
   12.0
   13.4
   Hct
   36.4
   37.0
   Plt
   60
   117
   Cr
   1.8
   2.0
   TCO2
   30
   28
   27
   29
   29
   26
   28
   28
   Glucose
   116
   158
   Other labs: PT / PTT / INR:17.0/37.6/1.5, CK / CKMB /
   Troponin-T:260/9/0.22, ALT / AST:2554/2595, Alk Phos / T Bili:188/1.5,
   Amylase / Lipase:50/19, Differential-Neuts:84.7 %, Band:2.0 %,
   Lymph:11.2 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:688 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:1159 IU/L, Ca++:7.6 mg/dL,
   Mg++:3.3 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   Extremely sad case of 50 yr old male with met RCC now in refractory
   hypoxemic and hypercarbic resp failure. After many meeting in [ast 48
   hours and much effort , family has decided to pursue comfort care.
   Clergy has been to bedside
   Primary Oncologist Dr [**Last Name (STitle) 230**] aware.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-4-28**] 02:03 PM
   18 Gauge - [**2120-4-28**] 02:03 PM
   PICC Line - [**2120-4-28**] 04:30 PM
   Arterial Line - [**2120-4-29**] 04:30 AM
   Multi Lumen - [**2120-4-29**] 12:05 PM
   Prophylaxis:
   Communication:  wife
   [**Name (NI) 66**] status: CMO
   Disposition : CMO
   Total time spent: 30